### PR TITLE
[Merged by Bors] -  refactor(Data/FunLike): use unbundled inheritance from FunLike

### PR DESCRIPTION
**Pull request by Vierkantor**
The FunLike hierarchy is very big and gets scanned through each time we need a coercion (via the `CoeFun` instance). It looks like unbundled inheritance suits Lean 4 better here. The only class that still extends `FunLike` is `EquivLike`, since that has a custom `coe_injective'` field that is easier to implement. All other classes should take `FunLike` or `EquivLike` as a parameter.

[Zulip thread](https://leanprover.zulipchat.com/#narrow/stream/287929-mathlib4/topic/.60example.20.28p.20.3A.20P.29.20.3A.20Q.20.3A.3D.20p.60.20takes.200.2E25s.20to.20fail!)

## Important changes

Previously, morphism classes would be `Type`-valued and extend `FunLike`:
```lean
/-- `MyHomClass F A B` states that `F` is a type of `MyClass.op`-preserving morphisms.
You should extend this class when you extend `MyHom`. -/
class MyHomClass (F : Type*) (A B : outParam <| Type*) [MyClass A] [MyClass B]
  extends FunLike F A B :=
(map_op : ∀ (f : F) (x y : A), f (MyClass.op x y) = MyClass.op (f x) (f y))
```
After this PR, they should be `Prop`-valued and take `FunLike` as a parameter:
```lean
/-- `MyHomClass F A B` states that `F` is a type of `MyClass.op`-preserving morphisms.
You should extend this class when you extend `MyHom`. -/
class MyHomClass (F : Type*) (A B : outParam <| Type*) [MyClass A] [MyClass B]
  [FunLike F A B] : Prop :=
(map_op : ∀ (f : F) (x y : A), f (MyClass.op x y) = MyClass.op (f x) (f y))
```
(Note that `A B` stay marked as `outParam` even though they are not purely required to be so due to the `FunLike` parameter already filling them in. This is required to see through type synonyms, which is important in the category theory library. Also, I think keeping them as `outParam` is slightly faster.)

Similarly, `MyEquivClass` should take `EquivLike` as a parameter.

As a result, every mention of `[MyHomClass F A B]` should become `[FunLike F A B] [MyHomClass F A B]`.

### Slower (failing) search

While overall this gives some great speedups, there are some cases that are noticeably slower. In particular, a *failing* application of a lemma such as `map_mul` is more expensive. This is due to suboptimal processing of arguments. For example:
```lean
variable [FunLike F M N] [Mul M] [Mul N] (f : F) (x : M) (y : M)

theorem map_mul [MulHomClass F M N] : f (x * y) = f x * f y

example [AddHomClass F A B] : f (x * y) = f x * f y := map_mul f _ _
```
Before this PR, applying `map_mul f` gives the goals `[Mul ?M] [Mul ?N] [MulHomClass F ?M ?N]`. Since `M` and `N` are `out_param`s, `[MulHomClass F ?M ?N]` is synthesized first, supplies values for `?M` and `?N` and then the `Mul M` and `Mul N` instances can be found.

After this PR, the goals become `[FunLike F ?M ?N] [Mul ?M] [Mul ?N] [MulHomClass F ?M ?N]`. Now `[FunLike F ?M ?N]` is synthesized first, supplies values for `?M` and `?N` and then the `Mul M` and `Mul N` instances can be found, before trying `MulHomClass F M N` which *fails*. Since the `Mul` hierarchy is very big, this can be slow to fail, especially when there is no such `Mul` instance.

A long-term but harder to achieve solution would be to specify the order in which instance goals get solved. For example, we'd like to change the arguments to `map_mul` to look like `[FunLike F M N] [Mul M] [Mul N] [highPriority <| MulHomClass F M N]` because `MulHomClass` fails or succeeds much faster than the others.

As a consequence, the `simpNF` linter is much slower since by design it tries and fails to apply many `map_` lemmas. The same issue occurs a few times in existing calls to `simp [map_mul]`, where `map_mul` is tried "too soon" and fails. Thanks to the speedup of leanprover/lean4#2478 the impact is very limited, only in files that already were close to the timeout.

### `simp` not firing sometimes

This affects `map_smulₛₗ` and related definitions. For `simp` lemmas Lean apparently uses a slightly different mechanism to find instances, so that `rw` can find every argument to `map_smulₛₗ` successfully but `simp` can't: leanprover/lean4#3701.

### Missing instances due to unification failing

Especially in the category theory library, we might sometimes have a type `A` which is also accessible as a synonym `(Bundled A hA).1`. Instance synthesis doesn't always work if we have `f : A →* B` but `x * y : (Bundled A hA).1` or vice versa. This seems to be mostly fixed by keeping `A B` as `outParam`s in `MulHomClass F A B`. (Presumably because Lean will do a definitional check `A =?= (Bundled A hA).1` instead of using the syntax in the discrimination tree.)

## Workaround for issues

The timeouts can be worked around for now by specifying which `map_mul` we mean, either as `map_mul f` for some explicit `f`, or as e.g. `MonoidHomClass.map_mul`.

`map_smulₛₗ` not firing as `simp` lemma can be worked around by going back to the pre-FunLike situation and making `LinearMap.map_smulₛₗ` a `simp` lemma instead of the generic `map_smulₛₗ`. Writing `simp [map_smulₛₗ _]` also works.

---

- [x] depends on: #9785
- [x] depends on: #9833

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by Vierkantor** [comment]
We can ignore linting failures when benchmarking, right?

!bench

**Comment by Vierkantor** [comment]
!bench

**Review by Vierkantor — COMMENTED** [review]
I went through all the files and made sure they are as clean and clear as possible.

**Comment by kbuzzard** [comment]
Why not globally replace `FunLike` with `DFunLike` and `NDFunLike` with `FunLike`? Is that an easy job at this point or a lot of hassle? This would follow the `Finsupp` / `DFinsupp` convention. I think `NDFunLike` is a little confusing/intimidating and it's going to be more common, I guess?

File: Mathlib/Algebra/Algebra/Equiv.lean [hunk 1]
```diff
@@ -130,6 +108,16 @@ instance : EquivLike (A₁ ≃ₐ[R] A₂) A₁ A₂ where
     obtain ⟨⟨g,_⟩,_⟩ := g
     congr
 
+/-- Helper instance since the coercion is not always found. -/
+instance : NDFunLike (A₁ ≃ₐ[R] A₂) A₁ A₂ where
```
[the remark this answers is not in the document]
Comment (jcommelin) [reply Mathlib/Algebra/Algebra/Equiv.lean:112]: NonDependent. I see that this was answered in OP.

File: Mathlib/Algebra/Algebra/Hom.lean [hunk 2]
```diff
@@ -48,9 +48,9 @@ notation:25 A " →ₐ[" R "] " B => AlgHom R A B
 
 /-- `AlgHomClass F R A B` asserts `F` is a type of bundled algebra homomorphisms
 from `A` to `B`.  -/
-class AlgHomClass (F : Type*) (R : outParam (Type*)) (A : outParam (Type*))
-  (B : outParam (Type*)) [CommSemiring R] [Semiring A] [Semiring B] [Algebra R A]
-  [Algebra R B] extends RingHomClass F A B where
+class AlgHomClass (F : Type*) (R A B : outParam Type*)
+  {_ : outParam <| CommSemiring R} {_ : outParam <| Semiring A} {_ : outParam <| Semiring B}
```
[the remark this answers is not in the document]
Comment (Vierkantor) [reply Mathlib/Algebra/Algebra/Hom.lean:52]: They don't need to be but it helped with timeouts (at least before Matt's branch).
```suggestion
  -- Marking these as `outParam` makes finding `AlgHomClass` instances faster.
  {_ : outParam <| CommSemiring R} {_ : outParam <| Semiring A} {_ : outParam <| Semiring B}
```

**Comment by Vierkantor** [comment]
> Why not globally replace `FunLike` with `DFunLike` and `NDFunLike` with `FunLike`? Is that an easy job at this point or a lot of hassle? This would follow the `Finsupp` / `DFinsupp` convention. I think `NDFunLike` is a little confusing/intimidating and it's going to be more common, I guess?

I didn't do it initially because I was afraid of blowing up the diff even more. But I guess that the additional changes won't hurt much atop 3400 existing lines.

File: Mathlib/Algebra/Algebra/Hom.lean (hunk 2 above)
[the remark this answers is not in the document]
Comment (jcommelin) [reply Mathlib/Algebra/Algebra/Hom.lean:53]: I'm a bit worried that statements are becoming less readable, with so many non-mathematical annotations.

**Comment by kbuzzard** [comment]
See https://leanprover.zulipchat.com/#narrow/stream/287929-mathlib4/topic/Should.20Sets.20be.20coerced.3F/near/417332844 (coercion from `Set ↑(A : Set α)` to `Set α` takes 0.3 seconds on a fast machine), fixed by this PR.

**Comment by kbuzzard** [comment]
More user confusion here [https://leanprover.zulipchat.com/#narrow/stream/287929-mathlib4/topic/Importing.20Mathlib.20breaks.20.60Polynomial.2Eaeval.60/near/418842009]. How do we get this over the line?

**Comment by collares** [comment]
@kbuzzard If I understand correctly, this transitively depends on lean4#2478, which requires some design decisions currently being discussed at https://leanprover.zulipchat.com/#narrow/stream/270676-lean4/topic/Multi-source.20structure.20instance.20elaboration.20.28lean4.232478.29

**Comment by mattrobball** [comment]
!bench

**Comment by collares** [comment]
!bench

**Comment by mattrobball** [comment]
This looks even better than I remember!

**Comment by mattrobball** [comment]
I guess the bot doesn’t check for `says` errors either

**Comment by mattrobball** [comment]
Testing out the removal of `{_ : outParam <| ... }` 

!bench

**Comment by mattrobball** [comment]
!bench

**Comment by mattrobball** [comment]
!bench

File: Mathlib/Analysis/NormedSpace/Unitization.lean [hunk 3]
```diff
@@ -235,7 +232,9 @@ noncomputable instance instNormedRing : NormedRing (Unitization 𝕜 A)
 algebra homomorphism `Unitization.splitMul 𝕜 A`. -/
 instance instNormedAlgebra : NormedAlgebra 𝕜 (Unitization 𝕜 A) where
   norm_smul_le k x := by
-    rw [norm_def, map_smul, norm_smul, ← norm_def]
+    rw [norm_def, map_smul]
+    -- Note: this used to be `rw [norm_smul, ← norm_def]`
```
Comment (mattrobball) [inline Mathlib/Analysis/NormedSpace/Unitization.lean:236]: Reference the PR

Comment (mattrobball) [inline Mathlib/Analysis/NormedSpace/Unitization.lean:236]: Reference the PR

File: Mathlib/Analysis/Seminorm.lean [hunk 4]
```diff
@@ -115,22 +115,20 @@ section SMul
 
 variable [SMul 𝕜 E]
 
-instance instSeminormClass : SeminormClass (Seminorm 𝕜 E) 𝕜 E where
+instance instFunLike : FunLike (Seminorm 𝕜 E) E ℝ where
```
Comment (mattrobball) [inline Mathlib/Analysis/Seminorm.lean:118]: Is this necessary?

File: Mathlib/Analysis/SpecialFunctions/Pow/Deriv.lean [hunk 5]
```diff
@@ -307,7 +307,7 @@ theorem _root_.HasStrictDerivAt.rpow {f g : ℝ → ℝ} {f' g' : ℝ} (hf : Has
       (f' * g x * f x ^ (g x - 1) + g' * f x ^ g x * Real.log (f x)) x := by
   convert (hasStrictFDerivAt_rpow_of_pos ((fun x => (f x, g x)) x) h).comp_hasStrictDerivAt x
     (hf.prod hg) using 1
-  simp [mul_assoc, mul_comm, mul_left_comm]
+  simp [Pi.smul_apply, mul_assoc, mul_comm, mul_left_comm]
```
Comment (mattrobball) [inline Mathlib/Analysis/SpecialFunctions/Pow/Deriv.lean:310]: Is this necessary?

Comment (mattrobball) [inline Mathlib/Analysis/SpecialFunctions/Pow/Deriv.lean:310]: Is this necessary?

File: Mathlib/CategoryTheory/Monad/EquivMon.lean [hunk 6]
```diff
@@ -95,7 +95,7 @@ def monToMonad : Mon_ (C ⥤ C) ⥤ Monad C where
         erw [← NatTrans.comp_app, f.one_hom]
         rfl
       app_μ := by
-        intro Z
+        intro z
```
Comment (mattrobball) [inline Mathlib/CategoryTheory/Monad/EquivMon.lean:98]: Revert

Comment (mattrobball) [inline Mathlib/CategoryTheory/Monad/EquivMon.lean:98]: Revert

File: Mathlib/Data/Finset/LocallyFinite.lean [hunk 7]
```diff
@@ -912,7 +912,7 @@ section Lattice
 variable [Lattice α] [LocallyFiniteOrder α] {a a₁ a₂ b b₁ b₂ c x : α}
 
 theorem uIcc_toDual (a b : α) : [[toDual a, toDual b]] = [[a, b]].map toDual.toEmbedding :=
-  Icc_toDual _ _
+  Icc_toDual (a ⊔ b) (a ⊓ b)
```
Comment (mattrobball) [inline Mathlib/Data/Finset/LocallyFinite.lean:915]: Is there an actual problem? Other places where the elaboration needed some hand-holding were noted

Comment (mattrobball) [inline Mathlib/Data/Finset/LocallyFinite.lean:915]: Is there an actual problem? Other places where the elaboration needed some hand-holding were noted

File: Mathlib/Data/Finset/Pointwise.lean [hunk 8]
```diff
@@ -168,8 +168,9 @@ theorem singletonOneHom_apply (a : α) : singletonOneHom a = {a} :=
 
 /-- Lift a `OneHom` to `Finset` via `image`. -/
 @[to_additive (attr := simps) "Lift a `ZeroHom` to `Finset` via `image`"]
-def imageOneHom [DecidableEq β] [One β] [OneHomClass F α β] (f : F) :
-    OneHom (Finset α) (Finset β) where
+def imageOneHom [DecidableEq β] [One β] [FunLike F α β] [OneHomClass F α β] (f : F) :
+    OneHom (Finset α) (Finset β)
+    where
```
Comment (mattrobball) [inline Mathlib/Data/Finset/Pointwise.lean:173]: Should this be on the previous line?

Comment (mattrobball) [inline Mathlib/Data/Finset/Pointwise.lean:173]: Should this be on the previous line?

File: Mathlib/Data/FunLike/Basic.lean [hunk 9]
```diff
@@ -13,7 +13,9 @@ import Mathlib.Util.CompileInductive
 
 This typeclass is primarily for use by homomorphisms like `MonoidHom` and `LinearMap`.
 
-## Basic usage of `DFunLike`
+There is the "D"ependent version `DFunLike` and the non-dependent version `FunLike`.
```
Comment (mattrobball) [inline Mathlib/Data/FunLike/Basic.lean:16]: @Vierkantor - please check my editorializing here

File: Mathlib/Dynamics/Circle/RotationNumber/TranslationNumber.lean [hunk 10]
```diff
@@ -133,9 +133,11 @@ structure CircleDeg1Lift extends ℝ →o ℝ : Type where
 
 namespace CircleDeg1Lift
 
-instance : OrderHomClass CircleDeg1Lift ℝ ℝ where
+instance : FunLike CircleDeg1Lift ℝ ℝ where
```
Comment (mattrobball) [inline Mathlib/Dynamics/Circle/RotationNumber/TranslationNumber.lean:136]: Is this necessary?

Comment (mattrobball) [inline Mathlib/Dynamics/Circle/RotationNumber/TranslationNumber.lean:136]: Is this necessary?

File: Mathlib/FieldTheory/Adjoin.lean [hunk 11]
```diff
@@ -1264,6 +1264,9 @@ theorem card_algHom_adjoin_integral (h : IsIntegral F α) (h_sep : (minpoly F α
     simp only [adjoin.powerBasis_dim, adjoin.powerBasis_gen, minpoly_gen, h_sep, h_splits]
 #align intermediate_field.card_alg_hom_adjoin_integral IntermediateField.card_algHom_adjoin_integral
 
+-- Note: #8386 had to bump heartbeats.
+-- Apparently `K⟮root f⟯ →+* K⟮root f⟯` is expensive to unify during instance synthesis.
+set_option synthInstance.maxHeartbeats 40000 in
```
Comment (mattrobball) [inline Mathlib/FieldTheory/Adjoin.lean:1269]: Can this be removed?

Comment (mattrobball) [inline Mathlib/FieldTheory/Adjoin.lean:1269]: Can this be removed?

File: Mathlib/FieldTheory/RatFunc.lean [hunk 12]
```diff
@@ -689,8 +690,7 @@ theorem coe_mapRingHom_eq_coe_map [RingHomClass F R[X] S[X]] (φ : F) (hφ : R[X
   rfl
 #align ratfunc.coe_map_ring_hom_eq_coe_map RatFunc.coe_mapRingHom_eq_coe_map
 
-set_option maxHeartbeats 300000 in
--- TODO: Generalize to `DFunLike` classes,
+-- TODO: Generalize to `FunLike` classes,
```
Comment (mattrobball) [inline Mathlib/FieldTheory/RatFunc.lean:693]: Is this correct?

Comment (mattrobball) [inline Mathlib/FieldTheory/RatFunc.lean:693]: Is this correct?

File: Mathlib/FieldTheory/RatFunc.lean [hunk 13]
```diff
@@ -1750,7 +1753,7 @@ theorem coe_smul (r : F) : ((r • f : RatFunc F) : LaurentSeries F) = r • (f
 
 -- Porting note: removed `norm_cast` because "badly shaped lemma, rhs can't start with coe"
 -- even though `single 1 1` is a bundled function application, not a "real" coercion
-@[simp]
+@[simp, nolint simpNF]
```
Comment (mattrobball) [inline Mathlib/FieldTheory/RatFunc.lean:1756]: There should be a note here if this is necessary

Comment (mattrobball) [inline Mathlib/FieldTheory/RatFunc.lean:1756]: There should be a note here if this is necessary

File: Mathlib/FieldTheory/Subfield.lean [hunk 14]
```diff
@@ -477,6 +477,9 @@ def topEquiv : (⊤ : Subfield K) ≃+* K :=
   Subsemiring.topEquiv
 #align subfield.top_equiv Subfield.topEquiv
 
+-- This triggers a timeout since #8386.
+attribute [nolint simpNF] topEquiv_apply
```
Comment (mattrobball) [inline Mathlib/FieldTheory/Subfield.lean:481]: We should double check since it's been a bit.

Comment (mattrobball) [inline Mathlib/FieldTheory/Subfield.lean:481]: We should double check since it's been a bit.

File: Mathlib/Geometry/Manifold/Algebra/LeftInvariantDerivation.lean [hunk 15]
```diff
@@ -60,15 +60,14 @@ theorem toDerivation_injective :
   fun X Y h => by cases X; cases Y; congr
 #align left_invariant_derivation.coe_derivation_injective LeftInvariantDerivation.toDerivation_injective
 
-instance : LinearMapClass (LeftInvariantDerivation I G) 𝕜 C^∞⟮I, G; 𝕜⟯ C^∞⟮I, G; 𝕜⟯ where
+instance : FunLike (LeftInvariantDerivation I G) C^∞⟮I, G; 𝕜⟯ C^∞⟮I, G; 𝕜⟯ where
```
Comment (mattrobball) [inline Mathlib/Geometry/Manifold/Algebra/LeftInvariantDerivation.lean:63]: Is this necessary?

Comment (mattrobball) [inline Mathlib/Geometry/Manifold/Algebra/LeftInvariantDerivation.lean:63]: Is this necessary?

File: Mathlib/Geometry/Manifold/Algebra/LeftInvariantDerivation.lean [hunk 16]
```diff
@@ -140,18 +139,12 @@ instance : Add (LeftInvariantDerivation I G) where
       simp only [map_add, Derivation.coe_add, left_invariant', Pi.add_apply]⟩
 
 instance : Neg (LeftInvariantDerivation I G) where
-  neg X := ⟨-X, fun g => by
-    -- porting note: was simp [left_invariant']
-    -- `rw` fails without detailed type annotations too; also it needs a lot of time
-    rw [map_neg (Derivation.evalAt (𝕜 := 𝕜) (1 : G)), map_neg (𝒅ₕ (smoothLeftMul_one I g)),
-      left_invariant', map_neg (Derivation.evalAt (𝕜 := 𝕜) g)]⟩
+  -- Note: restored to state before port
```
Comment (mattrobball) [inline Mathlib/Geometry/Manifold/Algebra/LeftInvariantDerivation.lean:142]: We can probably remove this comment

Comment (mattrobball) [inline Mathlib/Geometry/Manifold/Algebra/LeftInvariantDerivation.lean:142]: We can probably remove this comment

File: Mathlib/Geometry/Manifold/Algebra/LeftInvariantDerivation.lean [hunk 17]
```diff
@@ -140,18 +139,12 @@ instance : Add (LeftInvariantDerivation I G) where
...
+  neg X := ⟨-X, fun g => by simp [left_invariant']⟩
 
 instance : Sub (LeftInvariantDerivation I G) where
-  sub X Y := ⟨X - Y, fun g => by
-    -- porting note: was simp [left_invariant']
-    -- `rw` fails without detailed type annotations too; also it needs a lot of time
-    rw [map_sub (Derivation.evalAt (𝕜 := 𝕜) (1 : G)), map_sub (𝒅ₕ (smoothLeftMul_one I g)),
-      map_sub (Derivation.evalAt (𝕜 := 𝕜) g), left_invariant', left_invariant']⟩
+  -- Note: restored to state before port
```
Comment (mattrobball) [inline Mathlib/Geometry/Manifold/Algebra/LeftInvariantDerivation.lean:146]: Ditto

Comment (mattrobball) [inline Mathlib/Geometry/Manifold/Algebra/LeftInvariantDerivation.lean:146]: Ditto

File: Mathlib/Geometry/Manifold/Algebra/Monoid.lean [hunk 18]
```diff
@@ -285,11 +285,13 @@ instance : One (SmoothMonoidMorphism I I' G G') :=
 instance : Inhabited (SmoothMonoidMorphism I I' G G') :=
   ⟨1⟩
 
--- porting note: replaced `CoeFun` with `MonoidHomClass` and `ContinuousMapClass` instances
 @[to_additive]
-instance : MonoidHomClass (SmoothMonoidMorphism I I' G G') G G' where
+instance : FunLike (SmoothMonoidMorphism I I' G G') G G' where
```
Comment (mattrobball) [inline Mathlib/Geometry/Manifold/Algebra/Monoid.lean:289]: Is this necessary?

Comment (mattrobball) [inline Mathlib/Geometry/Manifold/Algebra/Monoid.lean:289]: Is this necessary?

File: Mathlib/Geometry/Manifold/Sheaf/LocallyRingedSpace.lean [hunk 19]
```diff
@@ -85,12 +85,14 @@ theorem smoothSheafCommRing.isUnit_stalk_iff {x : M}
         ext y
         apply mul_inv_cancel
         exact hVf y
+        · infer_instance
```
Comment (mattrobball) [inline Mathlib/Geometry/Manifold/Sheaf/LocallyRingedSpace.lean:88]: Is this asking for a `FunLike` here?

Comment (mattrobball) [inline Mathlib/Geometry/Manifold/Sheaf/LocallyRingedSpace.lean:88]: Is this asking for a `FunLike` here?

File: Mathlib/GroupTheory/GroupAction/Group.lean [hunk 20]
```diff
@@ -275,7 +275,7 @@ variable (β)
 /-- Each element of the group defines an additive monoid isomorphism.
 
 This is a stronger version of `MulAction.toPerm`. -/
-@[simps (config := { simpRhs := true })]
+@[simps! (config := { simpRhs := true })]
```
Comment (mattrobball) [inline Mathlib/GroupTheory/GroupAction/Group.lean:278]: These might not be necessary

File: Mathlib/GroupTheory/GroupAction/Group.lean [hunk 21]
```diff
@@ -328,7 +328,7 @@ variable (β)
 /-- Each element of the group defines a multiplicative monoid isomorphism.
 
 This is a stronger version of `MulAction.toPerm`. -/
-@[simps (config := { simpRhs := true })]
+@[simps! (config := { simpRhs := true })]
```
Comment (mattrobball) [inline Mathlib/GroupTheory/GroupAction/Group.lean:331]: Ditto

Comment (mattrobball) [inline Mathlib/GroupTheory/GroupAction/Group.lean:331]: Ditto

File: Mathlib/GroupTheory/GroupAction/Hom.lean [hunk 22]
```diff
@@ -91,9 +91,11 @@ attribute [simp] map_smul
 -- porting note: removed has_coe_to_fun instance, coercions handled differently now
 #noalign mul_action_hom.has_coe_to_fun
 
-instance : SMulHomClass (X →[M'] Y) M' X Y where
+instance : FunLike (X →[M'] Y) X Y where
```
Comment (mattrobball) [inline Mathlib/GroupTheory/GroupAction/Hom.lean:94]: Is this necessary?

Comment (mattrobball) [inline Mathlib/GroupTheory/GroupAction/Hom.lean:94]: Is this necessary?

File: Mathlib/GroupTheory/GroupAction/Hom.lean [hunk 23]
```diff
@@ -245,20 +245,20 @@ Coercion is already handled by all the HomClass constructions I believe -/
...
 -- #align distrib_mul_action_hom.has_coe' DistribMulActionHom.coe'
 
--- porting note: removed has_coe_to_fun instance, coercions handled differently now
-
 #noalign distrib_mul_action_hom.has_coe
 #noalign distrib_mul_action_hom.has_coe'
 #noalign distrib_mul_action_hom.has_coe_to_fun
 
-instance : DistribMulActionHomClass (A →+[M] B) M A B where
+instance : FunLike (A →+[M] B) A B where
```
Comment (mattrobball) [inline Mathlib/GroupTheory/GroupAction/Hom.lean:252]: Is this necessary?

Comment (mattrobball) [inline Mathlib/GroupTheory/GroupAction/Hom.lean:252]: Is this necessary?

File: Mathlib/GroupTheory/GroupAction/Hom.lean [hunk 24]
```diff
@@ -483,16 +485,18 @@ Coercion is already handled by all the HomClass constructions I believe -/
 #noalign mul_semiring_action_hom.has_coe'
 #noalign mul_semiring_action_hom.has_coe_to_fun
 
-instance : MulSemiringActionHomClass (R →+*[M] S) M R S where
+instance : FunLike (R →+*[M] S) R S where
```
Comment (mattrobball) [inline Mathlib/GroupTheory/GroupAction/Hom.lean:488]: Is this necessary?

File: Mathlib/LinearAlgebra/BilinearMap.lean [hunk 25]
```diff
@@ -132,7 +132,8 @@ def flip (f : M →ₛₗ[ρ₁₂] N →ₛₗ[σ₁₂] P) : N →ₛₗ[σ₁
   mk₂'ₛₗ σ₁₂ ρ₁₂ (fun n m => f m n) (fun n₁ n₂ m => (f m).map_add _ _)
     (fun c n  m  => (f m).map_smulₛₗ _ _)
     (fun n m₁ m₂ => by simp only [map_add, add_apply])
-    (fun c n  m  => by simp only [map_smulₛₗ, smul_apply])
+    -- Note: #8386 changed `map_smulₛₗ` into `map_smulₛₗ _`.
```
Comment (mattrobball) [inline Mathlib/LinearAlgebra/BilinearMap.lean:135]: Do we know why these are not unfolding now?

Comment (mattrobball) [inline Mathlib/LinearAlgebra/BilinearMap.lean:135]: Do we know why these are not unfolding now?

File: Mathlib/LinearAlgebra/CliffordAlgebra/Even.lean [hunk 26]
```diff
@@ -210,25 +210,25 @@ def aux (f : EvenHom Q A) : CliffordAlgebra.even Q →ₗ[R] A := by
   exact LinearMap.fst R _ _ ∘ₗ foldr Q (fFold f) (fFold_fFold f) (1, 0)
 #align clifford_algebra.even.lift.aux CliffordAlgebra.even.lift.aux
 
-@[simp]
+@[simp, nolint simpNF]
```
Comment (mattrobball) [inline Mathlib/LinearAlgebra/CliffordAlgebra/Even.lean:213]: These should be noted.

Comment (mattrobball) [inline Mathlib/LinearAlgebra/CliffordAlgebra/Even.lean:213]: These should be noted

File: Mathlib/LinearAlgebra/CliffordAlgebra/Even.lean [hunk 27]
```diff
@@ -210,25 +210,25 @@ def aux (f : EvenHom Q A) : CliffordAlgebra.even Q →ₗ[R] A := by
...
 theorem aux_one : aux f 1 = 1 :=
   congr_arg Prod.fst (foldr_one _ _ _ _)
 #align clifford_algebra.even.lift.aux_one CliffordAlgebra.even.lift.aux_one
 
-@[simp]
+@[simp, nolint simpNF]
```
Comment (mattrobball) [inline Mathlib/LinearAlgebra/CliffordAlgebra/Even.lean:218]: These should be noted

Comment (mattrobball) [inline Mathlib/LinearAlgebra/CliffordAlgebra/Even.lean:218]: These should be noted

File: Mathlib/LinearAlgebra/CliffordAlgebra/EvenEquiv.lean [hunk 28]
```diff
@@ -272,7 +272,9 @@ def evenToNeg (Q' : QuadraticForm R M) (h : Q' = -Q) :
     letI : HasDistribNeg (even Q') := NonUnitalNonAssocRing.toHasDistribNeg;
     { bilin := -(even.ι Q' : _).bilin
       contract := fun m => by
-        simp_rw [LinearMap.neg_apply, EvenHom.contract, h, QuadraticForm.neg_apply, map_neg,
+        -- HACK: not sure what causes the timeout with unqualified `map_neg`,
```
Comment (mattrobball) [inline Mathlib/LinearAlgebra/CliffordAlgebra/EvenEquiv.lean:275]: Clean up comment

Comment (mattrobball) [inline Mathlib/LinearAlgebra/CliffordAlgebra/EvenEquiv.lean:275]: Clean up comment

File: Mathlib/LinearAlgebra/QuadraticForm/Isometry.lean [hunk 29]
```diff
@@ -40,9 +40,11 @@ notation:25 Q₁ " →qᵢ " Q₂:0 => Isometry Q₁ Q₂
 variable {Q₁ : QuadraticForm R M₁} {Q₂ : QuadraticForm R M₂}
 variable {Q₃ : QuadraticForm R M₃} {Q₄ : QuadraticForm R M₄}
 
-instance instLinearMapClass : LinearMapClass (Q₁ →qᵢ Q₂) R M₁ M₂ where
+instance instFunLike : FunLike (Q₁ →qᵢ Q₂) M₁ M₂ where
```
Comment (mattrobball) [inline Mathlib/LinearAlgebra/QuadraticForm/Isometry.lean:43]: Is this necessary?

Comment (mattrobball) [inline Mathlib/LinearAlgebra/QuadraticForm/Isometry.lean:43]: Is this necessary?

File: Mathlib/LinearAlgebra/TensorProduct/Graded/Internal.lean [hunk 30]
```diff
@@ -252,8 +253,10 @@ instance instAlgebra : Algebra R (𝒜 ᵍ⊗[R] ℬ) where
       gradedMul_algebraMap]
   smul_def' r x := by
     dsimp [mul_def, mulHom_apply, auxEquiv_tmul]
-    simp_rw [DirectSum.decompose_algebraMap, DirectSum.decompose_one, algebraMap_gradedMul,
-      map_smul, LinearEquiv.symm_apply_apply]
+    simp_rw [DirectSum.decompose_algebraMap, DirectSum.decompose_one, algebraMap_gradedMul]
+    -- HACK
```
Comment (mattrobball) [inline Mathlib/LinearAlgebra/TensorProduct/Graded/Internal.lean:257]: Clean up comment

Comment (mattrobball) [inline Mathlib/LinearAlgebra/TensorProduct/Graded/Internal.lean:257]: Clean up comment

File: Mathlib/LinearAlgebra/TensorProduct/Graded/Internal.lean [hunk 31]
```diff
@@ -375,7 +378,9 @@ def comm : (𝒜 ᵍ⊗[R] ℬ) ≃ₐ[R] (ℬ ᵍ⊗[R] 𝒜) :=
     comm 𝒜 ℬ (a ᵍ⊗ₜ b) = (-1 : ℤˣ)^(j * i) • (b ᵍ⊗ₜ a : ℬ ᵍ⊗[R] 𝒜) :=
   (auxEquiv R ℬ 𝒜).injective <| by
     simp_rw [auxEquiv_comm, auxEquiv_tmul, decompose_coe, ← lof_eq_of R, gradedComm_of_tmul_of,
-      @Units.smul_def _ _ (_) (_), zsmul_eq_smul_cast R, map_smul, auxEquiv_tmul, decompose_coe,
-      lof_eq_of]
+      @Units.smul_def _ _ (_) (_), zsmul_eq_smul_cast R]
+    -- HACK
```
Comment (mattrobball) [inline Mathlib/LinearAlgebra/TensorProduct/Graded/Internal.lean:382]: Clean up comment

Comment (mattrobball) [inline Mathlib/LinearAlgebra/TensorProduct/Graded/Internal.lean:382]: Clean up comment

File: Mathlib/LinearAlgebra/TensorProduct/RightExactness.lean [hunk 32]
```diff
@@ -460,7 +460,8 @@ lemma Ideal.map_includeLeft_eq (I : Ideal A) :
           Submodule.mem_toAddSubmonoid, Submodule.restrictScalars_mem]
         rw [this]
         apply Ideal.mul_mem_left
-        apply Ideal.mem_map_of_mem
+        -- Note: adding `includeLeft` as a hint fixes a timeout
```
Comment (mattrobball) [inline Mathlib/LinearAlgebra/TensorProduct/RightExactness.lean:463]: Reference PR

File: Mathlib/Logic/Embedding/Basic.lean [hunk 33]
```diff
@@ -32,11 +32,13 @@ structure Embedding (α : Sort*) (β : Sort*) where
 /-- An embedding, a.k.a. a bundled injective function. -/
 infixr:25 " ↪ " => Embedding
 
-instance {α : Sort u} {β : Sort v} : EmbeddingLike (α ↪ β) α β where
+instance {α : Sort u} {β : Sort v} : FunLike (α ↪ β) α β where
```
Comment (mattrobball) [inline Mathlib/Logic/Embedding/Basic.lean:35]: Is this necessary?

File: Mathlib/MeasureTheory/MeasurableSpace/Basic.lean [hunk 34]
```diff
@@ -1369,6 +1369,11 @@ instance instEquivLike : EquivLike (α ≃ᵐ β) α β where
   right_inv e := e.toEquiv.right_inv
   coe_injective' _ _ he _ := toEquiv_injective <| DFunLike.ext' he
 
+/-- Helper instance for when the `EquivLike` instance is too hard to find. -/
+instance instFunLike : FunLike (α ≃ᵐ β) α β where
```
Comment (mattrobball) [inline Mathlib/MeasureTheory/MeasurableSpace/Basic.lean:1373]: Is this necessary?

File: Mathlib/NumberTheory/LegendreSymbol/MulCharacter.lean [hunk 35]
```diff
@@ -132,9 +132,11 @@ theorem ext' {χ χ' : MulChar R R'} (h : ∀ a, χ a = χ' a) : χ = χ' := by
   exact MonoidHom.ext h
 #align mul_char.ext' MulChar.ext'
 
-instance : MulCharClass (MulChar R R') R R' where
+instance : FunLike (MulChar R R') R R' where
```
Comment (mattrobball) [inline Mathlib/NumberTheory/LegendreSymbol/MulCharacter.lean:135]: Is this necessary?

File: Mathlib/NumberTheory/ModularForms/Basic.lean [hunk 36]
```diff
@@ -71,23 +72,29 @@ class ModularFormClass (F : Type*) (Γ : outParam <| Subgroup (SL(2, ℤ))) (k :
...
+
+instance (priority := 100) ModularFormClass.modularForm :
+    ModularFormClass (ModularForm Γ k) Γ k where
   slash_action_eq f := f.slash_action_eq'
   holo := ModularForm.holo'
   bdd_at_infty := ModularForm.bdd_at_infty'
 #align modular_form_class.modular_form ModularFormClass.modularForm
 
-instance (priority := 100) CuspFormClass.cuspForm : CuspFormClass (CuspForm Γ k) Γ k where
+instance (priority := 100) CuspForm.funLike : FunLike (CuspForm Γ k) ℍ ℂ where
```
Comment (mattrobball) [inline Mathlib/NumberTheory/ModularForms/Basic.lean:93]: Is this necessary?

File: Mathlib/NumberTheory/ModularForms/SlashInvariantForms.lean [hunk 37]
```diff
@@ -46,22 +46,22 @@ structure SlashInvariantForm where
...
 /-- `SlashInvariantFormClass F Γ k` asserts `F` is a type of bundled functions that are invariant
 under the `SlashAction`. -/
-class SlashInvariantFormClass extends DFunLike F ℍ fun _ => ℂ where
+class SlashInvariantFormClass [FunLike F ℍ ℂ] : Prop where
   slash_action_eq : ∀ (f : F) (γ : Γ), (f : ℍ → ℂ) ∣[k] γ = f
 #align slash_invariant_form_class SlashInvariantFormClass
 
-instance (priority := 100) SlashInvariantFormClass.slashInvariantForm :
-    SlashInvariantFormClass (SlashInvariantForm Γ k) Γ k where
+instance (priority := 100) SlashInvariantForm.funLike :
```
Comment (mattrobball) [inline Mathlib/NumberTheory/ModularForms/SlashInvariantForms.lean:53]: Is this necessary?

File: Mathlib/Order/Category/NonemptyFinLinOrd.lean [hunk 38]
```diff
@@ -136,12 +136,14 @@ def dualEquiv : NonemptyFinLinOrd ≌ NonemptyFinLinOrd where
 set_option linter.uppercaseLean3 false in
 #align NonemptyFinLinOrd.dual_equiv NonemptyFinLinOrd.dualEquiv
 
--- porting note: this instance was not necessary in mathlib
-instance {A B : NonemptyFinLinOrd.{u}} : OrderHomClass (A ⟶ B) A B where
+instance {A B : NonemptyFinLinOrd.{u}} : FunLike (A ⟶ B) A B where
```
Comment (mattrobball) [inline Mathlib/Order/Category/NonemptyFinLinOrd.lean:139]: Is this necessary?

File: Mathlib/Order/Closure.lean [hunk 39]
```diff
@@ -71,9 +71,11 @@ structure ClosureOperator [Preorder α] extends α →o α where
 
 namespace ClosureOperator
 
-instance [Preorder α] : OrderHomClass (ClosureOperator α) α α where
+instance [Preorder α] : FunLike (ClosureOperator α) α α where
```
Comment (mattrobball) [inline Mathlib/Order/Closure.lean:74]: Is this necessary?

Comment (mattrobball) [inline Mathlib/Order/Closure.lean:74]: Is this necessary?

File: Mathlib/Order/Heyting/Hom.lean [hunk 40]
```diff
@@ -245,9 +259,11 @@ namespace HeytingHom
 
 variable [HeytingAlgebra α] [HeytingAlgebra β] [HeytingAlgebra γ] [HeytingAlgebra δ]
 
-instance instHeytingHomClass : HeytingHomClass (HeytingHom α β) α β where
+instance instFunLike : FunLike (HeytingHom α β) α β where
```
Comment (mattrobball) [inline Mathlib/Order/Heyting/Hom.lean:262]: Is this necessary?

File: Mathlib/Order/Heyting/Hom.lean [hunk 41]
```diff
@@ -372,21 +388,16 @@ namespace CoheytingHom
 
 variable [CoheytingAlgebra α] [CoheytingAlgebra β] [CoheytingAlgebra γ] [CoheytingAlgebra δ]
 
-instance : CoheytingHomClass (CoheytingHom α β) α β where
+instance : FunLike (CoheytingHom α β) α β where
```
Comment (mattrobball) [inline Mathlib/Order/Heyting/Hom.lean:391]: Is this necessary?

File: Mathlib/Order/Hom/Bounded.lean [hunk 42]
```diff
@@ -192,10 +207,11 @@ section Top
 
 variable [Top β] [Top γ] [Top δ]
 
-instance : TopHomClass (TopHom α β) α
-      β where
+instance : FunLike (TopHom α β) α β where
```
Comment (mattrobball) [inline Mathlib/Order/Hom/Bounded.lean:210]: Is this necessary?

File: Mathlib/Order/Hom/Bounded.lean [hunk 43]
```diff
@@ -384,10 +400,11 @@ section Bot
 
 variable [Bot β] [Bot γ] [Bot δ]
 
-instance : BotHomClass (BotHom α β) α
-      β where
+instance : FunLike (BotHom α β) α β where
```
Comment (mattrobball) [inline Mathlib/Order/Hom/Bounded.lean:403]: Is this necessary?

File: Mathlib/Order/Hom/CompleteLattice.lean [hunk 44]
```diff
@@ -395,17 +402,12 @@ section InfSet
 
 variable [InfSet β] [InfSet γ] [InfSet δ]
 
-instance : sInfHomClass (sInfHom α β) α β
-    where
+instance : FunLike (sInfHom α β) α β where
```
Comment (mattrobball) [inline Mathlib/Order/Hom/CompleteLattice.lean:405]: Is this necessary?

File: Mathlib/Order/Hom/Lattice.lean [hunk 45]
```diff
@@ -531,15 +547,12 @@ section Inf
 
 variable [Inf β] [Inf γ] [Inf δ]
 
-instance : InfHomClass (InfHom α β) α β where
+instance : FunLike (InfHom α β) α β where
```
Comment (mattrobball) [inline Mathlib/Order/Hom/Lattice.lean:550]: Is this necessary?

File: Mathlib/Order/Hom/Lattice.lean [hunk 46]
```diff
@@ -1218,10 +1222,12 @@ def toBoundedOrderHom (f : BoundedLatticeHom α β) : BoundedOrderHom α β :=
   { f, (f.toLatticeHom : α →o β) with }
 #align bounded_lattice_hom.to_bounded_order_hom BoundedLatticeHom.toBoundedOrderHom
 
-instance instBoundedLatticeHomClass : BoundedLatticeHomClass (BoundedLatticeHom α β) α β
+instance instFunLike : FunLike (BoundedLatticeHom α β) α β
```
Comment (mattrobball) [inline Mathlib/Order/Hom/Lattice.lean:1225]: Is this necessary?

File: Mathlib/Order/InitialSeg.lean [hunk 47]
```diff
@@ -66,13 +66,15 @@ namespace InitialSeg
...
   ⟨InitialSeg.toRelEmbedding⟩
 
-instance : EmbeddingLike (r ≼i s) α β :=
-  { coe := fun f => f.toFun
-    coe_injective' := by
-      rintro ⟨f, hf⟩ ⟨g, hg⟩ h
-      congr with x
-      exact congr_fun h x,
-    injective' := fun f => f.inj' }
+instance : FunLike (r ≼i s) α β where
```
Comment (mattrobball) [inline Mathlib/Order/InitialSeg.lean:69]: Is this necessary?

File: Mathlib/Order/OmegaCompletePartialOrder.lean [hunk 48]
```diff
@@ -622,9 +623,11 @@ attribute [nolint docBlame] ContinuousHom.toOrderHom
 
 @[inherit_doc] infixr:25 " →𝒄 " => ContinuousHom -- Input: \r\MIc
 
-instance : OrderHomClass (α →𝒄 β) α β where
+instance : FunLike (α →𝒄 β) α β where
```
Comment (mattrobball) [inline Mathlib/Order/OmegaCompletePartialOrder.lean:626]: Is this necessary?

Comment (mattrobball) [inline Mathlib/Order/OmegaCompletePartialOrder.lean:626]: Is this necessary?

File: Mathlib/Order/RelIso/Basic.lean [hunk 49]
```diff
@@ -231,14 +233,17 @@ instance : Coe (r ↪r s) (r →r s) :=
 -- instance : CoeFun (r ↪r s) fun _ => α → β :=
 --   ⟨fun o => o.toEmbedding⟩
 
--- TODO: define and instantiate a `RelEmbeddingClass`
-instance : RelHomClass (r ↪r s) r s where
+-- TODO: define and instantiate a `RelEmbeddingClass` when `EmbeddingLike` is defined
+instance : FunLike (r ↪r s) α β where
```
Comment (mattrobball) [inline Mathlib/Order/RelIso/Basic.lean:237]: Is this necessary?

File: Mathlib/RingTheory/Derivation/Basic.lean [hunk 50]
```diff
@@ -62,17 +62,14 @@ variable [Module A M] [Module B M] [Module R M]
 
 variable (D : Derivation R A M) {D1 D2 : Derivation R A M} (r : R) (a b : A)
 
-instance : AddMonoidHomClass (Derivation R A M) A M where
+instance : FunLike (Derivation R A M) A M where
```
Comment (mattrobball) [inline Mathlib/RingTheory/Derivation/Basic.lean:65]: Is this necessary?

File: Mathlib/RingTheory/LaurentSeries.lean [hunk 51]
```diff
@@ -184,12 +184,12 @@ theorem coe_add : ((f + g : PowerSeries R) : LaurentSeries R) = f + g :=
   (ofPowerSeries ℤ R).map_add _ _
 #align power_series.coe_add PowerSeries.coe_add
 
-@[simp, norm_cast]
```
Comment (mattrobball) [inline Mathlib/RingTheory/LaurentSeries.lean:187]: What happened here?

File: Mathlib/RingTheory/PowerSeries/Basic.lean [hunk 52]
```diff
@@ -2288,7 +2288,8 @@ variable [Semiring R] {φ : R⟦X⟧}
 theorem exists_coeff_ne_zero_iff_ne_zero : (∃ n : ℕ, coeff R n φ ≠ 0) ↔ φ ≠ 0 := by
   refine' not_iff_not.mp _
   push_neg
-  simp [PowerSeries.ext_iff]
+  -- FIXME: the `FunLike.coe` doesn't seem to be picked up in the expression?
```
Comment (mattrobball) [inline Mathlib/RingTheory/PowerSeries/Basic.lean:2291]: Reference PR

Comment (mattrobball) [inline Mathlib/RingTheory/PowerSeries/Basic.lean:2291]: Reference PR

File: Mathlib/Topology/Algebra/ContinuousAffineMap.lean [hunk 53]
```diff
@@ -59,15 +59,12 @@ theorem to_affineMap_injective {f g : P →A[R] Q} (h : (f : P →ᵃ[R] Q) = (g
   congr
 #align continuous_affine_map.to_affine_map_injective ContinuousAffineMap.to_affineMap_injective
 
-instance : ContinuousMapClass (P →A[R] Q) P Q where
+instance : FunLike (P →A[R] Q) P Q where
```
Comment (mattrobball) [inline Mathlib/Topology/Algebra/ContinuousAffineMap.lean:62]: Is this necessary?

File: Mathlib/Topology/Algebra/ContinuousMonoidHom.lean [hunk 54]
```diff
@@ -97,25 +99,21 @@ namespace ContinuousMonoidHom
 variable {A B C D E}
 
 @[to_additive]
-instance ContinuousMonoidHom.ContinuousMonoidHomClass :
-  ContinuousMonoidHomClass (ContinuousMonoidHom A B) A B where
+instance ContinuousMonoidHom.funLike :
+    FunLike (ContinuousMonoidHom A B) A B where
```
Comment (mattrobball) [inline Mathlib/Topology/Algebra/ContinuousMonoidHom.lean:103]: Is this necessary?

File: Mathlib/Topology/Algebra/ContinuousMonoidHom.lean [hunk 55]
```diff
@@ -415,6 +413,9 @@ namespace PontryaginDual
 
 open ContinuousMonoidHom
 
+noncomputable instance : FunLike (PontryaginDual A) A circle :=
```
Comment (mattrobball) [inline Mathlib/Topology/Algebra/ContinuousMonoidHom.lean:416]: Is this necessary?

File: Mathlib/Topology/Algebra/Module/Basic.lean [hunk 56]
```diff
@@ -416,10 +414,13 @@ theorem coe_injective : Function.Injective ((↑) : (M₁ →SL[σ₁₂] M₂)
   congr
 #align continuous_linear_map.coe_injective ContinuousLinearMap.coe_injective
 
-instance continuousSemilinearMapClass :
-    ContinuousSemilinearMapClass (M₁ →SL[σ₁₂] M₂) σ₁₂ M₁ M₂ where
+instance funLike :
+    FunLike (M₁ →SL[σ₁₂] M₂) M₁ M₂ where
```
Comment (mattrobball) [inline Mathlib/Topology/Algebra/Module/Basic.lean:418]: Is this necessary?

Comment (mattrobball) [inline Mathlib/Topology/Algebra/Module/Basic.lean:418]: Is this necessary?

File: Mathlib/Topology/Algebra/Module/WeakDual.lean [hunk 57]
```diff
@@ -233,6 +229,9 @@ instance instContinuousAdd : ContinuousAdd (WeakDual 𝕜 E) :=
 instance instInhabited : Inhabited (WeakDual 𝕜 E) :=
   ContinuousLinearMap.inhabited
 
+instance instFunLike : FunLike (WeakDual 𝕜 E) E 𝕜 :=
```
Comment (mattrobball) [inline Mathlib/Topology/Algebra/Module/WeakDual.lean:232]: Is this necessary?

File: Mathlib/Topology/Algebra/Module/WeakDual.lean [hunk 58]
```diff
@@ -179,10 +179,6 @@ instance instTopologicalAddGroup [ContinuousAdd 𝕜] : TopologicalAddGroup (Wea
     refine' cast (congr_arg _ _) (eval_continuous B (-y))
     ext x
     simp only [map_neg, Function.comp_apply, LinearMap.neg_apply]
-    -- Porting note: mathlib3 proof was done here
```
Comment (mattrobball) [inline Mathlib/Topology/Algebra/Module/WeakDual.lean:182]: What fixed this?

File: Mathlib/Topology/Bornology/Hom.lean [hunk 59]
```diff
@@ -76,19 +78,15 @@ namespace LocallyBoundedMap
 
 variable [Bornology α] [Bornology β] [Bornology γ] [Bornology δ]
 
-instance : LocallyBoundedMapClass (LocallyBoundedMap α β) α β where
+instance : FunLike (LocallyBoundedMap α β) α β where
```
Comment (mattrobball) [inline Mathlib/Topology/Bornology/Hom.lean:81]: Is this necessary?

File: Mathlib/Topology/Compactness/SigmaCompact.lean [hunk 60]
```diff
@@ -337,9 +337,11 @@ structure CompactExhaustion (X : Type*) [TopologicalSpace X] where
 
 namespace CompactExhaustion
 
-instance : @RelHomClass (CompactExhaustion X) ℕ (Set X) LE.le HasSubset.Subset where
+instance : FunLike (CompactExhaustion X) ℕ (Set X) where
```
Comment (mattrobball) [inline Mathlib/Topology/Compactness/SigmaCompact.lean:340]: Is this necessary?

Comment (mattrobball) [inline Mathlib/Topology/Compactness/SigmaCompact.lean:340]: Is this necessary?

File: Mathlib/Topology/Connected/PathConnected.lean [hunk 61]
```diff
@@ -78,14 +78,16 @@ structure Path (x y : X) extends C(I, X) where
   target' : toFun 1 = y
 #align path Path
 
--- porting note: added this instance so that we can use `DFunLike.coe` for `CoeFun`
--- this also fixed very strange `simp` timeout issues
-instance Path.continuousMapClass : ContinuousMapClass (Path x y) I X where
+instance Path.funLike : FunLike (Path x y) I X where
```
Comment (mattrobball) [inline Mathlib/Topology/Connected/PathConnected.lean:81]: Is this necessary?

File: Mathlib/Topology/ContinuousFunction/Basic.lean [hunk 62]
```diff
@@ -80,16 +81,12 @@ namespace ContinuousMap
 variable {α β γ δ : Type*} [TopologicalSpace α] [TopologicalSpace β] [TopologicalSpace γ]
   [TopologicalSpace δ]
 
-instance toContinuousMapClass : ContinuousMapClass C(α, β) α β where
+instance funLike : FunLike C(α, β) α β where
```
Comment (mattrobball) [inline Mathlib/Topology/ContinuousFunction/Basic.lean:84]: Is this necessary?

File: Mathlib/Topology/ContinuousFunction/Bounded.lean [hunk 63]
```diff
@@ -70,21 +70,18 @@ variable [TopologicalSpace α] [PseudoMetricSpace β] [PseudoMetricSpace γ]
 
 variable {f g : α →ᵇ β} {x : α} {C : ℝ}
 
-instance : BoundedContinuousMapClass (α →ᵇ β) α β where
+instance : FunLike (α →ᵇ β) α β where
```
Comment (mattrobball) [inline Mathlib/Topology/ContinuousFunction/Bounded.lean:73]: Is this necessary?

File: Mathlib/Topology/ContinuousFunction/CocompactMap.lean [hunk 64]
```diff
@@ -74,21 +75,17 @@ section Basics
 variable {α β γ δ : Type*} [TopologicalSpace α] [TopologicalSpace β] [TopologicalSpace γ]
   [TopologicalSpace δ]
 
-instance : CocompactMapClass (CocompactMap α β) α β where
+instance : FunLike (CocompactMap α β) α β where
```
Comment (mattrobball) [inline Mathlib/Topology/ContinuousFunction/CocompactMap.lean:78]: Is this necessary?

File: Mathlib/Topology/ContinuousFunction/ZeroAtInfty.lean [hunk 65]
```diff
@@ -73,22 +73,19 @@ namespace ZeroAtInftyContinuousMap
 
 section Basics
 
-variable [TopologicalSpace β] [Zero β] [ZeroAtInftyContinuousMapClass F α β]
+variable [TopologicalSpace β] [Zero β] [FunLike F α β] [ZeroAtInftyContinuousMapClass F α β]
 
-instance instZeroAtInftyContinuousMapClass : ZeroAtInftyContinuousMapClass C₀(α, β) α β where
+instance instFunLike : FunLike C₀(α, β) α β where
```
Comment (mattrobball) [inline Mathlib/Topology/ContinuousFunction/ZeroAtInfty.lean:78]: Is this necessary?

File: Mathlib/Topology/Hom/Open.lean [hunk 66]
```diff
@@ -62,12 +63,14 @@ namespace ContinuousOpenMap
 
 variable [TopologicalSpace α] [TopologicalSpace β] [TopologicalSpace γ] [TopologicalSpace δ]
 
-instance : ContinuousOpenMapClass (α →CO β) α β where
+instance : FunLike (α →CO β) α β where
```
Comment (mattrobball) [inline Mathlib/Topology/Hom/Open.lean:66]: Is this necessary?

File: Mathlib/Topology/Homotopy/Basic.lean [hunk 67]
```diff
@@ -101,22 +102,18 @@ section
 
 variable {f₀ f₁ : C(X, Y)}
 
-instance : HomotopyLike (Homotopy f₀ f₁) f₀ f₁ where
+instance : FunLike (Homotopy f₀ f₁) (I × X) Y where
```
Comment (mattrobball) [inline Mathlib/Topology/Homotopy/Basic.lean:105]: Is this necessary?

File: Mathlib/Topology/Homotopy/Basic.lean [hunk 68]
```diff
@@ -419,10 +416,12 @@ section
 
 variable {f₀ f₁ : C(X, Y)} {P : C(X, Y) → Prop}
 
-instance : HomotopyLike (HomotopyWith f₀ f₁ P) f₀ f₁ where
+instance : FunLike (HomotopyWith f₀ f₁ P) (I × X) Y where
```
Comment (mattrobball) [inline Mathlib/Topology/Homotopy/Basic.lean:419]: Is this necessary?

File: Mathlib/Topology/MetricSpace/Dilation.lean [hunk 69]
```diff
@@ -87,9 +87,11 @@ section Setup
 
 variable [PseudoEMetricSpace α] [PseudoEMetricSpace β]
 
-instance toDilationClass : DilationClass (α →ᵈ β) α β where
+instance funLike : FunLike (α →ᵈ β) α β where
```
Comment (mattrobball) [inline Mathlib/Topology/MetricSpace/Dilation.lean:90]: Is this necessary?

Comment (mattrobball) [inline Mathlib/Topology/MetricSpace/Dilation.lean:90]: Is this necessary?

File: Mathlib/Topology/Order/Hom/Basic.lean [hunk 70]
```diff
@@ -98,12 +98,14 @@ def toContinuousMap (f : α →Co β) : C(α, β) :=
   { f with }
 #align continuous_order_hom.to_continuous_map ContinuousOrderHom.toContinuousMap
 
-instance : ContinuousOrderHomClass (α →Co β) α β where
+instance : FunLike (α →Co β) α β where
```
Comment (mattrobball) [inline Mathlib/Topology/Order/Hom/Basic.lean:101]: Is this necessary?

File: Mathlib/Topology/Order/Hom/Esakia.lean [hunk 71]
```diff
@@ -54,22 +54,28 @@ section
 
 You should extend this class when you extend `PseudoEpimorphism`. -/
 class PseudoEpimorphismClass (F : Type*) (α β : outParam <| Type*) [Preorder α] [Preorder β]
-    extends RelHomClass F ((· ≤ ·) : α → α → Prop) ((· ≤ ·) : β → β → Prop) where
+    [FunLike F α β]
```
Comment (mattrobball) [inline Mathlib/Topology/Order/Hom/Esakia.lean:57]: Spacing is strange

File: Mathlib/Topology/Order/Hom/Esakia.lean [hunk 72]
```diff
@@ -234,21 +239,18 @@ def toPseudoEpimorphism (f : EsakiaHom α β) : PseudoEpimorphism α β :=
   { f with }
 #align esakia_hom.to_pseudo_epimorphism EsakiaHom.toPseudoEpimorphism
 
-instance : EsakiaHomClass (EsakiaHom α β) α β where
+instance : FunLike (EsakiaHom α β) α β where
```
Comment (mattrobball) [inline Mathlib/Topology/Order/Hom/Esakia.lean:242]: Is this necessary?

File: Mathlib/Topology/Sheaves/SheafCondition/UniqueGluing.lean [hunk 73]
```diff
@@ -283,16 +283,22 @@ theorem objSupIsoProdEqLocus_inv_eq_iff {X : TopCat.{u}} (F : X.Sheaf CommRingCa
   constructor
   · rintro rfl
     rw [← TopCat.Sheaf.objSupIsoProdEqLocus_inv_fst, ← TopCat.Sheaf.objSupIsoProdEqLocus_inv_snd]
-    simp only [← comp_apply, ← Functor.map_comp, ← op_comp, Category.assoc, homOfLE_comp, and_self]
+    -- `simp` doesn't see through the type equality of objects in `CommRingCat`, so use `rw`
```
Comment (mattrobball) [inline Mathlib/Topology/Sheaves/SheafCondition/UniqueGluing.lean:286]: Reference PR here and below

File: Mathlib/Topology/Spectral/Hom.lean [hunk 74]
```diff
@@ -109,17 +109,12 @@ def toContinuousMap (f : SpectralMap α β) : ContinuousMap α β :=
   ⟨_, f.spectral'.continuous⟩
 #align spectral_map.to_continuous_map SpectralMap.toContinuousMap
 
-instance : SpectralMapClass (SpectralMap α β) α β
-    where
+instance : FunLike (SpectralMap α β) α β where
```
Comment (mattrobball) [inline Mathlib/Topology/Spectral/Hom.lean:112]: Is this necessary?

**Review by mattrobball — COMMENTED** [review]
Probably most of the `FunLike`'s I asked about being necessary are. I am going to check.

File: Mathlib/Algebra/Algebra/Hom.lean (hunk 2 above)
[the remark this answers is not in the document]
Comment (mattrobball) [reply Mathlib/Algebra/Algebra/Hom.lean]: http://speed.lean-fro.org/mathlib4/compare/e7b27246-a3e6-496a-b552-ff4b45c7236e/to/1cfe8858-bbc7-4a55-8ad0-11a161b76e3c?hash1=49c26db8997e1913a558ee1b3bc0551c4794da9f has a comparison between using the `outParam`’s and not. You are slower but now it doesn’t seem to a big difference.

File: Mathlib/Algebra/Category/Ring/Basic.lean [hunk 75]
```diff
@@ -75,6 +75,10 @@ instance instSemiring (X : SemiRingCat) : Semiring X := X.str
 
 instance instSemiring' (X : SemiRingCat) : Semiring <| (forget SemiRingCat).obj X := X.str
 
+instance instFunLike {X Y : SemiRingCat} : FunLike (X ⟶ Y) X Y :=
+  -- Note: this is apparently _not_ defeq to RingHom.instFunLike
```
[the remark this answers is not in the document]
Comment (mattrobball) [reply Mathlib/Algebra/Category/Ring/Basic.lean:79]: They are at `default` transparency but not at `reducible` and `instances`.

[the remark this answers is not in the document]
Comment (mattrobball) [reply Mathlib/Algebra/Category/Ring/Basic.lean:79]: It is not unfolding `(CategoryTheory.forget SemiRingCat).toPrefunctor`

[the remark this answers is not in the document]
Comment (mattrobball) [reply Mathlib/Algebra/Category/Ring/Basic.lean:79]: See above

File: Mathlib/Algebra/DirectLimit.lean [hunk 76]
```diff
@@ -434,7 +434,12 @@ variable {G f}
 
 @[simp]
 theorem lift_of (i x) : lift G f P g Hg (of G f i x) = g i x :=
-  Module.DirectLimit.lift_of _ _ _
+  Module.DirectLimit.lift_of
+    -- Note: had to make these arguments explicit.
```
[the remark this answers is not in the document]
Comment (mattrobball) [reply Mathlib/Algebra/DirectLimit.lean:438]: Duplicate

File: Mathlib/Algebra/Lie/Submodule.lean [hunk 77]
```diff
@@ -944,6 +944,8 @@ variable (N) in
 noncomputable def equivMapOfInjective (hf : Function.Injective f) :
     N ≃ₗ⁅R,L⁆ N.map f :=
   { Submodule.equivMapOfInjective (f : M →ₗ[R] M') hf N with
+    -- Note: #8386 had to specify `invFun` explicitly this way, otherwise we'd get a type mismatch
+    invFun := by exact DFunLike.coe (Submodule.equivMapOfInjective (f : M →ₗ[R] M') hf N).symm
```
[the remark this answers is not in the document]
Comment (mattrobball) [reply Mathlib/Algebra/Lie/Submodule.lean:948]: Duplicate

[the remark this answers is not in the document]
Comment (mattrobball) [reply Mathlib/Algebra/Lie/Submodule.lean:948]: Yes. Separate issue.

File: Mathlib/Algebra/Ring/Equiv.lean [hunk 78]
```diff
@@ -136,19 +135,25 @@ section Basic
...
     cases e
     cases f
     congr
     apply Equiv.coe_fn_injective h₁
-  map_add f := f.map_add'
-  map_mul f := f.map_mul'
   left_inv f := f.left_inv
   right_inv f := f.right_inv
 
+instance : FunLike (R ≃+* S) R S where
```
[the remark this answers is not in the document]
Comment (mattrobball) [reply Mathlib/Algebra/Ring/Equiv.lean:149]: Duplicate

File: Mathlib/Algebra/Ring/Hom/Defs.lean [hunk 79]
```diff
@@ -413,27 +412,21 @@ See note [implicit instance arguments].
 
 variable {_ : NonAssocSemiring α} {_ : NonAssocSemiring β}
 
-instance instRingHomClass : RingHomClass (α →+* β) α β where
+instance instFunLike : FunLike (α →+* β) α β where
```
[the remark this answers is not in the document]
Comment (mattrobball) [reply Mathlib/Algebra/Ring/Hom/Defs.lean:415]: Yes

[the remark this answers is not in the document]
Comment (mattrobball) [reply Mathlib/Algebra/Ring/Hom/Defs.lean:415]: Duplicate

File: Mathlib/Algebra/Star/StarAlgHom.lean [hunk 80]
```diff
@@ -110,21 +108,21 @@ variable [NonUnitalNonAssocSemiring C] [DistribMulAction R C] [Star C]
 
 variable [NonUnitalNonAssocSemiring D] [DistribMulAction R D] [Star D]
 
-instance : NonUnitalStarAlgHomClass (A →⋆ₙₐ[R] B) R A B
+instance : FunLike (A →⋆ₙₐ[R] B) A B
```
[the remark this answers is not in the document]
Comment (mattrobball) [reply Mathlib/Algebra/Star/StarAlgHom.lean:111]: Yes

File: Mathlib/Analysis/Normed/Group/Hom.lean [hunk 81]
```diff
@@ -85,19 +85,15 @@ variable {f g : NormedAddGroupHom V₁ V₂}
 def ofLipschitz (f : V₁ →+ V₂) {K : ℝ≥0} (h : LipschitzWith K f) : NormedAddGroupHom V₁ V₂ :=
   f.mkNormedAddGroupHom K fun x ↦ by simpa only [map_zero, dist_zero_right] using h.dist_le_mul x 0
 
--- porting note: moved this declaration up so we could get a `DFunLike` instance sooner.
-instance toAddMonoidHomClass : AddMonoidHomClass (NormedAddGroupHom V₁ V₂) V₁ V₂ where
+instance funLike : FunLike (NormedAddGroupHom V₁ V₂) V₁ V₂ where
```
[the remark this answers is not in the document]
Comment (mattrobball) [reply Mathlib/Analysis/Normed/Group/Hom.lean:88]: Yes

[the remark this answers is not in the document]
Comment (mattrobball) [reply Mathlib/Analysis/Normed/Group/Hom.lean:88]: Duplicate

File: Mathlib/Analysis/Normed/Group/SemiNormedGroupCat.lean [hunk 82]
```diff
@@ -59,9 +59,11 @@ instance (M : SemiNormedGroupCat) : SeminormedAddCommGroup M :=
   M.str
 
 -- Porting Note: added
-instance toAddMonoidHomClass {V W : SemiNormedGroupCat} : AddMonoidHomClass (V ⟶ W) V W where
+instance funLike {V W : SemiNormedGroupCat} : FunLike (V ⟶ W) V W where
```
[the remark this answers is not in the document]
Comment (mattrobball) [reply Mathlib/Analysis/Normed/Group/SemiNormedGroupCat.lean:62]: Duplicate

[the remark this answers is not in the document]
Comment (mattrobball) [reply Mathlib/Analysis/Normed/Group/SemiNormedGroupCat.lean:62]: Yes

File: Mathlib/Analysis/Normed/Group/Seminorm.lean [hunk 83]
```diff
@@ -123,8 +123,9 @@ structure NonarchAddGroupNorm (G : Type*) [AddGroup G] extends NonarchAddGroupSe
 the additive group `α`.
 
 You should extend this class when you extend `NonarchAddGroupSeminorm`. -/
-class NonarchAddGroupSeminormClass (F : Type*) (α : outParam <| Type*) [AddGroup α] extends
-  NonarchimedeanHomClass F α ℝ where
+class NonarchAddGroupSeminormClass (F : Type*) (α : outParam <| Type*) [AddGroup α]
+    [FunLike F α ℝ]
```
[the remark this answers is not in the document]
Comment (mattrobball) [reply Mathlib/Analysis/Normed/Group/Seminorm.lean:127]: Duplicate

File: Mathlib/Analysis/Normed/Group/Seminorm.lean [hunk 84]
```diff
@@ -135,15 +136,16 @@ class NonarchAddGroupSeminormClass (F : Type*) (α : outParam <| Type*) [AddGrou
 additive group `α`.
 
 You should extend this class when you extend `NonarchAddGroupNorm`. -/
-class NonarchAddGroupNormClass (F : Type*) (α : outParam <| Type*) [AddGroup α] extends
-  NonarchAddGroupSeminormClass F α where
+class NonarchAddGroupNormClass (F : Type*) (α : outParam <| Type*) [AddGroup α]
+    [FunLike F α ℝ]
```
[the remark this answers is not in the document]
Comment (mattrobball) [reply Mathlib/Analysis/Normed/Group/Seminorm.lean:140]: Duplicate

File: Mathlib/Analysis/Normed/Group/Seminorm.lean [hunk 85]
```diff
@@ -740,10 +751,14 @@ section Group
 variable [Group E] [Group F] [Group G] {p q : GroupNorm E}
 
 @[to_additive]
-instance groupNormClass : GroupNormClass (GroupNorm E) E ℝ
+instance funLike : FunLike (GroupNorm E) E ℝ
```
[the remark this answers is not in the document]
Comment (mattrobball) [reply Mathlib/Analysis/Normed/Group/Seminorm.lean:754]: Duplicate

File: Mathlib/Analysis/Normed/Group/Seminorm.lean [hunk 86]
```diff
@@ -895,10 +910,13 @@ section AddGroup
 
 variable [AddGroup E] [AddGroup F] {p q : NonarchAddGroupNorm E}
 
-instance nonarchAddGroupNormClass : NonarchAddGroupNormClass (NonarchAddGroupNorm E) E
+instance funLike : FunLike (NonarchAddGroupNorm E) E ℝ
```
[the remark this answers is not in the document]
Comment (mattrobball) [reply Mathlib/Analysis/Normed/Group/Seminorm.lean:913]: Yes

[the remark this answers is not in the document]
Comment (mattrobball) [reply Mathlib/Analysis/Normed/Group/Seminorm.lean:913]: Duplicate

File: Mathlib/Analysis/Normed/Ring/Seminorm.lean [hunk 87]
```diff
@@ -176,29 +174,26 @@ namespace RingNorm
 
 variable [NonUnitalRing R]
 
-instance ringNormClass : RingNormClass (RingNorm R) R ℝ where
+instance funLike : FunLike (RingNorm R) R ℝ where
```
[the remark this answers is not in the document]
Comment (mattrobball) [reply Mathlib/Analysis/Normed/Ring/Seminorm.lean:177]: Duplicate

File: Mathlib/Analysis/NormedSpace/LinearIsometry.lean [hunk 88]
```diff
@@ -1143,7 +1149,7 @@ def prodAssoc [Module R E₂] [Module R E₃] : (E × E₂) × E₃ ≃ₗᵢ[R]
   { Equiv.prodAssoc E E₂ E₃ with
     toFun := Equiv.prodAssoc E E₂ E₃
     invFun := (Equiv.prodAssoc E E₂ E₃).symm
-    map_add' := by simp
+    map_add' := by simp [-_root_.map_add] -- HACK to fix timeout
```
[the remark this answers is not in the document]
Comment (mattrobball) [reply Mathlib/Analysis/NormedSpace/LinearIsometry.lean:1152]: Duplicate

File: Mathlib/Analysis/NormedSpace/Unitization.lean (hunk 3 above)
Comment (mattrobball) [reply Mathlib/Analysis/NormedSpace/Unitization.lean:236]: Duplicate

File: Mathlib/Analysis/Normed/Group/Seminorm.lean (hunk 85 above)
[the remark this answers is not in the document]
Comment (mattrobball) [reply Mathlib/Analysis/Normed/Group/Seminorm.lean:754]: Yes

File: Mathlib/Analysis/Normed/Ring/Seminorm.lean [hunk 89]
```diff
@@ -78,24 +78,22 @@ section NonUnitalRing
 
 variable [NonUnitalRing R]
 
-instance ringSeminormClass : RingSeminormClass (RingSeminorm R) R ℝ where
+instance funLike : FunLike (RingSeminorm R) R ℝ where
```
[the remark this answers is not in the document]
Comment (mattrobball) [reply Mathlib/Analysis/Normed/Ring/Seminorm.lean:81]: YEs

[the remark this answers is not in the document]
Comment (mattrobball) [reply Mathlib/Analysis/Normed/Ring/Seminorm.lean:81]: Duplicate

File: Mathlib/Analysis/Normed/Ring/Seminorm.lean [hunk 90]
```diff
@@ -226,25 +221,23 @@ namespace MulRingSeminorm
 
 variable [NonAssocRing R]
 
-instance mulRingSeminormClass : MulRingSeminormClass (MulRingSeminorm R) R ℝ where
+instance funLike : FunLike (MulRingSeminorm R) R ℝ where
```
[the remark this answers is not in the document]
Comment (mattrobball) [reply Mathlib/Analysis/Normed/Ring/Seminorm.lean:224]: Yes

File: Mathlib/Analysis/Normed/Ring/Seminorm.lean [hunk 91]
```diff
@@ -283,14 +276,16 @@ namespace MulRingNorm
 
 variable [NonAssocRing R]
 
-instance mulRingNormClass : MulRingNormClass (MulRingNorm R) R ℝ where
+instance funLike : FunLike (MulRingNorm R) R ℝ where
```
[the remark this answers is not in the document]
Comment (mattrobball) [reply Mathlib/Analysis/Normed/Ring/Seminorm.lean:279]: Duplicate

File: Mathlib/Analysis/SpecialFunctions/Pow/Deriv.lean (hunk 5 above)
Comment (mattrobball) [reply Mathlib/Analysis/SpecialFunctions/Pow/Deriv.lean:310]: Duplicate

File: Mathlib/CategoryTheory/Monad/EquivMon.lean (hunk 6 above)
Comment (mattrobball) [reply Mathlib/CategoryTheory/Monad/EquivMon.lean:98]: Duplicate

File: Mathlib/Data/Finset/LocallyFinite.lean (hunk 7 above)
Comment (mattrobball) [reply Mathlib/Data/Finset/LocallyFinite.lean:915]: Duplicate

File: Mathlib/Data/Finset/Pointwise.lean (hunk 8 above)
Comment (mattrobball) [reply Mathlib/Data/Finset/Pointwise.lean:173]: Duplicate

File: Mathlib/Dynamics/Circle/RotationNumber/TranslationNumber.lean (hunk 10 above)
Comment (mattrobball) [reply Mathlib/Dynamics/Circle/RotationNumber/TranslationNumber.lean:136]: Duplicate

File: Mathlib/FieldTheory/Adjoin.lean (hunk 11 above)
Comment (mattrobball) [reply Mathlib/FieldTheory/Adjoin.lean:1269]: Duplicate

File: Mathlib/FieldTheory/RatFunc.lean (hunk 12 above)
Comment (mattrobball) [reply Mathlib/FieldTheory/RatFunc.lean:693]: Duplicate

File: Mathlib/FieldTheory/RatFunc.lean (hunk 13 above)
Comment (mattrobball) [reply Mathlib/FieldTheory/RatFunc.lean:1756]: Duplicate

File: Mathlib/Geometry/Manifold/Algebra/LeftInvariantDerivation.lean (hunk 15 above)
Comment (mattrobball) [reply Mathlib/Geometry/Manifold/Algebra/LeftInvariantDerivation.lean:63]: Duplicate

File: Mathlib/Geometry/Manifold/Algebra/LeftInvariantDerivation.lean (hunk 16 above)
Comment (mattrobball) [reply Mathlib/Geometry/Manifold/Algebra/LeftInvariantDerivation.lean:142]: Duplicate

File: Mathlib/Geometry/Manifold/Algebra/Monoid.lean (hunk 18 above)
Comment (mattrobball) [reply Mathlib/Geometry/Manifold/Algebra/Monoid.lean:289]: Duplicate

File: Mathlib/Geometry/Manifold/Sheaf/LocallyRingedSpace.lean (hunk 19 above)
Comment (mattrobball) [reply Mathlib/Geometry/Manifold/Sheaf/LocallyRingedSpace.lean:88]: Duplicate

File: Mathlib/GroupTheory/GroupAction/Group.lean (hunk 21 above)
Comment (mattrobball) [reply Mathlib/GroupTheory/GroupAction/Group.lean:331]: Duplicate

File: Mathlib/GroupTheory/GroupAction/Hom.lean (hunk 23 above)
Comment (mattrobball) [reply Mathlib/GroupTheory/GroupAction/Hom.lean:252]: Duplicate

File: Mathlib/LinearAlgebra/CliffordAlgebra/Even.lean (hunk 26 above)
Comment (mattrobball) [reply Mathlib/LinearAlgebra/CliffordAlgebra/Even.lean:213]: Duplicate

File: Mathlib/LinearAlgebra/CliffordAlgebra/Even.lean (hunk 27 above)
Comment (mattrobball) [reply Mathlib/LinearAlgebra/CliffordAlgebra/Even.lean:218]: Duplicate

File: Mathlib/LinearAlgebra/CliffordAlgebra/EvenEquiv.lean (hunk 28 above)
Comment (mattrobball) [reply Mathlib/LinearAlgebra/CliffordAlgebra/EvenEquiv.lean:275]: Duplicate

File: Mathlib/LinearAlgebra/TensorProduct/Graded/Internal.lean (hunk 30 above)
Comment (mattrobball) [reply Mathlib/LinearAlgebra/TensorProduct/Graded/Internal.lean:257]: Duplicate

File: Mathlib/LinearAlgebra/TensorProduct/RightExactness.lean (hunk 32 above)
[the remark this answers is not in the document]
Comment (mattrobball) [reply Mathlib/LinearAlgebra/TensorProduct/RightExactness.lean:463]: Duplicate

File: Mathlib/LinearAlgebra/TensorProduct/RightExactness.lean [hunk 92]
```diff
@@ -527,7 +528,8 @@ lemma Ideal.map_includeRight_eq (I : Ideal B) :
         simp only [AddSubsemigroup.mem_carrier, AddSubmonoid.mem_toSubsemigroup,
           Submodule.mem_toAddSubmonoid, Submodule.restrictScalars_mem]
         apply Ideal.mul_mem_left
-        apply Ideal.mem_map_of_mem
+        -- Note: adding `includeRight` as a hint fixes a timeout
```
[the remark this answers is not in the document]
Comment (mattrobball) [reply Mathlib/LinearAlgebra/TensorProduct/RightExactness.lean:531]: Duplicate

File: Mathlib/Logic/Equiv/Defs.lean [hunk 93]
```diff
@@ -103,9 +103,10 @@ instance : EquivLike (α ≃ β) α β where
   coe_injective' e₁ e₂ h₁ h₂ := by cases e₁; cases e₂; congr
 
 /-- Helper instance when inference gets stuck on following the normal chain
-`EquivLike → EmbeddingLike → FunLike → CoeFun`. -/
-instance : FunLike (α ≃ β) α β :=
-  EmbeddingLike.toDFunLike
+`EquivLike → FunLike. -/
+instance : FunLike (α ≃ β) α β where
```
[the remark this answers is not in the document]
Comment (mattrobball) [reply Mathlib/Logic/Equiv/Defs.lean:107]: Duplicate

File: Mathlib/MeasureTheory/Function/Jacobian.lean [hunk 94]
```diff
@@ -1222,8 +1222,10 @@ theorem det_one_smulRight {𝕜 : Type*} [NormedField 𝕜] (v : 𝕜) :
     ((1 : 𝕜 →L[𝕜] 𝕜).smulRight v).det = v := by
   have : (1 : 𝕜 →L[𝕜] 𝕜).smulRight v = v • (1 : 𝕜 →L[𝕜] 𝕜) := by
     ext1
+    -- `Pi.smul_apply _` forces explicit binders and relaxes transparency to use non-reducibly
```
[the remark this answers is not in the document]
Comment (mattrobball) [reply Mathlib/MeasureTheory/Function/Jacobian.lean:1225]: Duplicate

File: Mathlib/Topology/Order/Hom/Esakia.lean (hunk 72 above)
Comment (mattrobball) [reply Mathlib/Topology/Order/Hom/Esakia.lean:242]: Duplicate

File: Mathlib/Analysis/NormedSpace/Star/GelfandDuality.lean [hunk 95]
```diff
@@ -91,6 +91,8 @@ noncomputable def Ideal.toCharacterSpace : characterSpace ℂ A :=
     Quotient.mkₐ ℂ I
 #align ideal.to_character_space Ideal.toCharacterSpace
 
+section
```
[the remark this answers is not in the document]
Comment (mattrobball) [reply Mathlib/Analysis/NormedSpace/Star/GelfandDuality.lean:94]: Doesn’t seem necessary

File: Mathlib/Analysis/NormedSpace/Star/GelfandDuality.lean [hunk 96]
```diff
@@ -115,7 +119,8 @@ theorem WeakDual.CharacterSpace.mem_spectrum_iff_exists {a : A} {z : ℂ} :
     z ∈ spectrum ℂ a ↔ ∃ f : characterSpace ℂ A, f a = z := by
   refine' ⟨fun hz => _, _⟩
   · obtain ⟨f, hf⟩ := WeakDual.CharacterSpace.exists_apply_eq_zero hz
-    simp only [map_sub, sub_eq_zero, AlgHomClass.commutes] at hf
+    simp only [map_sub, sub_eq_zero, AlgHomClass.commutes, Algebra.id.map_eq_id,
```
[the remark this answers is not in the document]
Comment (mattrobball) [reply Mathlib/Analysis/NormedSpace/Star/GelfandDuality.lean:122]:
```lean
simp only [map_sub, sub_eq_zero, AlgHomClass.commutes] at hf 
```
seems enough

File: Mathlib/Analysis/Seminorm.lean (hunk 4 above)
Comment (mattrobball) [reply Mathlib/Analysis/Seminorm.lean:118]: Yes

File: Mathlib/Analysis/SpecialFunctions/Pow/Deriv.lean (hunk 5 above)
Comment (mattrobball) [reply Mathlib/Analysis/SpecialFunctions/Pow/Deriv.lean:310]: No this can be deleted

File: Mathlib/Data/Finset/LocallyFinite.lean (hunk 7 above)
Comment (mattrobball) [reply Mathlib/Data/Finset/LocallyFinite.lean:915]: This is can be safely reverted

File: Mathlib/Dynamics/Circle/RotationNumber/TranslationNumber.lean (hunk 10 above)
Comment (mattrobball) [reply Mathlib/Dynamics/Circle/RotationNumber/TranslationNumber.lean:136]: Yes

File: Mathlib/FieldTheory/Adjoin.lean (hunk 11 above)
Comment (mattrobball) [reply Mathlib/FieldTheory/Adjoin.lean:1269]: At the expense of specializing `map_sub` below to `RingHom.map_sub`

File: Mathlib/Geometry/Manifold/Algebra/LeftInvariantDerivation.lean (hunk 17 above)
Comment (mattrobball) [reply Mathlib/Geometry/Manifold/Algebra/LeftInvariantDerivation.lean:146]: Duplicate

File: Mathlib/LinearAlgebra/QuadraticForm/Isometry.lean (hunk 29 above)
Comment (mattrobball) [reply Mathlib/LinearAlgebra/QuadraticForm/Isometry.lean:43]: Duplicate

File: Mathlib/LinearAlgebra/TensorProduct/Graded/Internal.lean (hunk 31 above)
Comment (mattrobball) [reply Mathlib/LinearAlgebra/TensorProduct/Graded/Internal.lean:382]: Duplicate

File: Mathlib/Logic/Embedding/Basic.lean (hunk 33 above)
[the remark this answers is not in the document]
Comment (mattrobball) [reply Mathlib/Logic/Embedding/Basic.lean:35]: Duplicate

File: Mathlib/MeasureTheory/Function/UniformIntegrable.lean [hunk 97]
```diff
@@ -959,7 +959,9 @@ theorem uniformIntegrable_average_real (hp : 1 ≤ p) {f : ℕ → α → ℝ} (
     UniformIntegrable (fun n => (∑ i in Finset.range n, f i) / (n : α → ℝ)) p μ := by
   convert uniformIntegrable_average hp hf using 2 with n
   ext x
-  simp [div_eq_inv_mul]
+  -- `Pi.smul_apply _` forces explicit binders and relaxes transparency to use non-reducibly
```
[the remark this answers is not in the document]
Comment (mattrobball) [reply Mathlib/MeasureTheory/Function/UniformIntegrable.lean:962]: Duplicate

File: Mathlib/MeasureTheory/MeasurableSpace/Basic.lean (hunk 34 above)
[the remark this answers is not in the document]
Comment (mattrobball) [reply Mathlib/MeasureTheory/MeasurableSpace/Basic.lean:1373]: Duplicate

File: Mathlib/NumberTheory/ModularForms/Basic.lean [hunk 98]
```diff
@@ -71,23 +72,29 @@ class ModularFormClass (F : Type*) (Γ : outParam <| Subgroup (SL(2, ℤ))) (k :
 `SlashInvariantFormClass` by requiring that the functions be holomorphic and zero
 at infinity. -/
 class CuspFormClass (F : Type*) (Γ : outParam <| Subgroup (SL(2, ℤ))) (k : outParam ℤ)
-    extends SlashInvariantFormClass F Γ k where
+    [FunLike F ℍ ℂ]
```
[the remark this answers is not in the document]
Comment (mattrobball) [reply Mathlib/NumberTheory/ModularForms/Basic.lean:75]: Duplicate

File: Mathlib/NumberTheory/ModularForms/SlashInvariantForms.lean (hunk 37 above)
Comment (mattrobball) [reply Mathlib/NumberTheory/ModularForms/SlashInvariantForms.lean:53]: Duplicate

File: Mathlib/Order/Category/NonemptyFinLinOrd.lean (hunk 38 above)
[the remark this answers is not in the document]
Comment (mattrobball) [reply Mathlib/Order/Category/NonemptyFinLinOrd.lean:139]: Duplicate

File: Mathlib/Order/Closure.lean (hunk 39 above)
Comment (mattrobball) [reply Mathlib/Order/Closure.lean:74]: Duplicate

File: Mathlib/Order/Heyting/Hom.lean (hunk 41 above)
Comment (mattrobball) [reply Mathlib/Order/Heyting/Hom.lean:391]: Duplicate

File: Mathlib/Order/Hom/Basic.lean [hunk 99]
```diff
@@ -108,15 +108,14 @@ infixl:25 " ≃o " => OrderIso
 section
 
 /-- `OrderHomClass F α b` asserts that `F` is a type of `≤`-preserving morphisms. -/
-abbrev OrderHomClass (F : Type*) (α β : outParam (Type*)) [LE α] [LE β] :=
```
[the remark this answers is not in the document]
Comment (mattrobball) [reply Mathlib/Order/Hom/Basic.lean:111]: Duplicate

File: Mathlib/Order/Hom/Bounded.lean [hunk 100]
```diff
@@ -64,26 +64,25 @@ section
...
   map_bot (f : F) : f ⊥ = ⊥
 #align bot_hom_class BotHomClass
 
 /-- `BoundedOrderHomClass F α β` states that `F` is a type of bounded order morphisms.
 
 You should extend this class when you extend `BoundedOrderHom`. -/
-class BoundedOrderHomClass (F : Type*) (α β : outParam <| Type*) [LE α] [LE β] [BoundedOrder α]
-  [BoundedOrder β] extends RelHomClass F ((· ≤ ·) : α → α → Prop) ((· ≤ ·) : β → β → Prop) where
+class BoundedOrderHomClass (F α β : Type*) [LE α] [LE β] [BoundedOrder α] [BoundedOrder β]
+  [FunLike F α β]
```
[the remark this answers is not in the document]
Comment (mattrobball) [reply Mathlib/Order/Hom/Bounded.lean:84]: Duplicate

[the remark this answers is not in the document]
Comment (mattrobball) [reply Mathlib/Order/Hom/Bounded.lean:84]: Duplicate

File: Mathlib/Order/Hom/Bounded.lean (hunk 43 above)
[the remark this answers is not in the document]
Comment (mattrobball) [reply Mathlib/Order/Hom/Bounded.lean:403]: Duplicate

File: Mathlib/Order/Hom/Bounded.lean [hunk 101]
```diff
@@ -586,10 +603,11 @@ def toBotHom (f : BoundedOrderHom α β) : BotHom α β :=
   { f with }
 #align bounded_order_hom.to_bot_hom BoundedOrderHom.toBotHom
 
-instance : BoundedOrderHomClass (BoundedOrderHom α β) α
-      β where
+instance : FunLike (BoundedOrderHom α β) α β where
```
[the remark this answers is not in the document]
Comment (mattrobball) [reply Mathlib/Order/Hom/Bounded.lean:606]: Duplicate

File: Mathlib/Order/Hom/CompleteLattice.lean [hunk 102]
```diff
@@ -537,23 +539,20 @@ namespace FrameHom
 
 variable [CompleteLattice α] [CompleteLattice β] [CompleteLattice γ] [CompleteLattice δ]
 
-instance : FrameHomClass (FrameHom α β) α β
+instance : FunLike (FrameHom α β) α β
```
[the remark this answers is not in the document]
Comment (mattrobball) [reply Mathlib/Order/Hom/CompleteLattice.lean:542]: Duplicate

File: Mathlib/Order/Hom/Lattice.lean [hunk 103]
```diff
@@ -343,16 +363,12 @@ section Sup
 
 variable [Sup β] [Sup γ] [Sup δ]
 
-instance : SupHomClass (SupHom α β) α β where
+instance : FunLike (SupHom α β) α β where
```
[the remark this answers is not in the document]
Comment (mattrobball) [reply Mathlib/Order/Hom/Lattice.lean:366]: Duplicate

File: Mathlib/Order/Hom/Lattice.lean (hunk 45 above)
[the remark this answers is not in the document]
Comment (mattrobball) [reply Mathlib/Order/Hom/Lattice.lean:550]: Duplicate

File: Mathlib/Order/Hom/Lattice.lean [hunk 104]
```diff
@@ -723,20 +736,19 @@ def toBotHom (f : SupBotHom α β) : BotHom α β :=
   { f with }
 #align sup_bot_hom.to_bot_hom SupBotHom.toBotHom
 
-instance : SupBotHomClass (SupBotHom α β) α β
+instance : FunLike (SupBotHom α β) α β
```
[the remark this answers is not in the document]
Comment (mattrobball) [reply Mathlib/Order/Hom/Lattice.lean:739]: Duplicate

File: Mathlib/Order/Hom/Lattice.lean [hunk 105]
```diff
@@ -1030,18 +1038,14 @@ def toInfHom (f : LatticeHom α β) : InfHom α β :=
   { f with }
 #align lattice_hom.to_inf_hom LatticeHom.toInfHom
 
-instance : LatticeHomClass (LatticeHom α β) α β
-    where
+instance : FunLike (LatticeHom α β) α β where
```
[the remark this answers is not in the document]
Comment (mattrobball) [reply Mathlib/Order/Hom/Lattice.lean:1041]: Duplicate

File: Mathlib/Order/Hom/Lattice.lean (hunk 46 above)
Comment (mattrobball) [reply Mathlib/Order/Hom/Lattice.lean:1225]: Duplicate

File: Mathlib/Order/OmegaCompletePartialOrder.lean (hunk 48 above)
Comment (mattrobball) [reply Mathlib/Order/OmegaCompletePartialOrder.lean:626]: Duplicate

File: Mathlib/Order/RelIso/Basic.lean [hunk 106]
```diff
@@ -103,12 +103,14 @@ end RelHomClass
 
 namespace RelHom
 
-instance : RelHomClass (r →r s) r s where
+instance : FunLike (r →r s) α β where
```
[the remark this answers is not in the document]
Comment (mattrobball) [reply Mathlib/Order/RelIso/Basic.lean:106]: Duplicate

File: Mathlib/RingTheory/Derivation/Basic.lean (hunk 50 above)
[the remark this answers is not in the document]
Comment (mattrobball) [reply Mathlib/RingTheory/Derivation/Basic.lean:65]: Duplicate

File: Mathlib/RingTheory/PowerSeries/Basic.lean (hunk 52 above)
Comment (mattrobball) [reply Mathlib/RingTheory/PowerSeries/Basic.lean:2291]: Duplicate

File: Mathlib/RingTheory/Valuation/Basic.lean [hunk 107]
```diff
@@ -117,22 +118,18 @@ section Monoid
 
 variable [LinearOrderedCommMonoidWithZero Γ₀] [LinearOrderedCommMonoidWithZero Γ'₀]
 
-instance : ValuationClass (Valuation R Γ₀) R Γ₀ where
+instance : FunLike (Valuation R Γ₀) R Γ₀ where
```
[the remark this answers is not in the document]
Comment (mattrobball) [reply Mathlib/RingTheory/Valuation/Basic.lean:121]: Duplicate

File: Mathlib/Topology/Algebra/ContinuousMonoidHom.lean (hunk 55 above)
[the remark this answers is not in the document]
Comment (mattrobball) [reply Mathlib/Topology/Algebra/ContinuousMonoidHom.lean:416]: Duplicate

File: Mathlib/Topology/Algebra/Module/Basic.lean (hunk 56 above)
Comment (mattrobball) [reply Mathlib/Topology/Algebra/Module/Basic.lean:418]: Duplicate

File: Mathlib/Topology/Algebra/Module/WeakDual.lean (hunk 57 above)
Comment (mattrobball) [reply Mathlib/Topology/Algebra/Module/WeakDual.lean:232]: Duplicate

File: Mathlib/Topology/Compactness/SigmaCompact.lean (hunk 60 above)
Comment (mattrobball) [reply Mathlib/Topology/Compactness/SigmaCompact.lean:340]: Duplicate

File: Mathlib/Topology/ContinuousFunction/Basic.lean (hunk 62 above)
Comment (mattrobball) [reply Mathlib/Topology/ContinuousFunction/Basic.lean:84]: Duplicate

File: Mathlib/Topology/ContinuousFunction/CocompactMap.lean (hunk 64 above)
Comment (mattrobball) [reply Mathlib/Topology/ContinuousFunction/CocompactMap.lean:78]: Duplicate

File: Mathlib/Topology/Homotopy/Basic.lean (hunk 67 above)
[the remark this answers is not in the document]
Comment (mattrobball) [reply Mathlib/Topology/Homotopy/Basic.lean:105]: Duplicate

File: Mathlib/Topology/MetricSpace/Dilation.lean (hunk 69 above)
Comment (mattrobball) [reply Mathlib/Topology/MetricSpace/Dilation.lean:90]: Duplicate

File: Mathlib/Topology/MetricSpace/Isometry.lean [hunk 108]
```diff
@@ -319,6 +319,10 @@ instance : EquivLike (α ≃ᵢ β) α β where
   right_inv e := e.right_inv
   coe_injective' _ _ h _ := toEquiv_injective <| DFunLike.ext' h
 
+instance : FunLike (α ≃ᵢ β) α β where
```
[the remark this answers is not in the document]
Comment (mattrobball) [reply Mathlib/Topology/MetricSpace/Isometry.lean:322]: Duplicate

File: Mathlib/Geometry/Manifold/Algebra/LeftInvariantDerivation.lean (hunk 15 above)
Comment (mattrobball) [reply Mathlib/Geometry/Manifold/Algebra/LeftInvariantDerivation.lean:63]: Yes

File: Mathlib/Geometry/Manifold/Algebra/Monoid.lean (hunk 18 above)
Comment (mattrobball) [reply Mathlib/Geometry/Manifold/Algebra/Monoid.lean:289]: Yes

File: Mathlib/Geometry/Manifold/Sheaf/LocallyRingedSpace.lean (hunk 19 above)
Comment (mattrobball) [reply Mathlib/Geometry/Manifold/Sheaf/LocallyRingedSpace.lean:88]: No. The `convert map_one _` line above generates a `OneHomClass` goal. This can be avoided with `RingHom.map_one`

Comment (mattrobball) [reply Mathlib/Geometry/Manifold/Sheaf/LocallyRingedSpace.lean:88]: Same below

File: Mathlib/GroupTheory/GroupAction/Group.lean (hunk 20 above)
Comment (mattrobball) [reply Mathlib/GroupTheory/GroupAction/Group.lean:278]: It is not

File: Mathlib/GroupTheory/GroupAction/Group.lean (hunk 21 above)
Comment (mattrobball) [reply Mathlib/GroupTheory/GroupAction/Group.lean:331]: It is not

File: Mathlib/GroupTheory/GroupAction/Hom.lean (hunk 22 above)
Comment (mattrobball) [reply Mathlib/GroupTheory/GroupAction/Hom.lean:94]: Yes

Comment (mattrobball) [reply Mathlib/GroupTheory/GroupAction/Hom.lean:94]: Duplicate

File: Mathlib/GroupTheory/GroupAction/Hom.lean (hunk 23 above)
Comment (mattrobball) [reply Mathlib/GroupTheory/GroupAction/Hom.lean:252]: YEs

File: Mathlib/GroupTheory/GroupAction/Hom.lean (hunk 24 above)
Comment (mattrobball) [reply Mathlib/GroupTheory/GroupAction/Hom.lean:488]: Yes

File: Mathlib/LinearAlgebra/BilinearMap.lean (hunk 25 above)
Comment (mattrobball) [reply Mathlib/LinearAlgebra/BilinearMap.lean:135]: Duplicate

Comment (mattrobball) [reply Mathlib/LinearAlgebra/BilinearMap.lean:135]: Hmm. It doesn’t look like unfolding. It looks like we use up all the assignable metavariables.

File: Mathlib/Logic/Embedding/Basic.lean (hunk 33 above)
Comment (mattrobball) [reply Mathlib/Logic/Embedding/Basic.lean:35]: Yes

File: Mathlib/FieldTheory/RatFunc.lean (hunk 12 above)
Comment (mattrobball) [reply Mathlib/FieldTheory/RatFunc.lean:693]: Yes, probably

File: Mathlib/FieldTheory/Subfield.lean (hunk 14 above)
Comment (mattrobball) [reply Mathlib/FieldTheory/Subfield.lean:481]: Duplicate

File: Mathlib/LinearAlgebra/QuadraticForm/Isometry.lean (hunk 29 above)
Comment (mattrobball) [reply Mathlib/LinearAlgebra/QuadraticForm/Isometry.lean:43]: Yes

File: Mathlib/Order/Category/HeytAlg.lean [hunk 109]
```diff
@@ -61,6 +61,10 @@ instance : ConcreteCategory HeytAlg := by
   dsimp [HeytAlg]
   infer_instance
 
+-- Porting note: No idea why it does not find this instance...
+instance {X Y : HeytAlg.{u}} : FunLike (X ⟶ Y) ↑X ↑Y :=
```
[the remark this answers is not in the document]
Comment (mattrobball) [reply Mathlib/Order/Category/HeytAlg.lean:65]: Duplicate

File: Mathlib/ModelTheory/Basic.lean [hunk 110]
```diff
@@ -595,25 +595,25 @@ def HomClass.toHom {F M N} [L.Structure M] [L.Structure N] [FunLike F M N]
 
 namespace Embedding
 
-instance embeddingLike : EmbeddingLike (M ↪[L] N) M N where
+instance funLike : FunLike (M ↪[L] N) M N where
```
[the remark this answers is not in the document]
Comment (mattrobball) [reply Mathlib/ModelTheory/Basic.lean:598]: Yes

[the remark this answers is not in the document]
Comment (mattrobball) [reply Mathlib/ModelTheory/Basic.lean:598]: Duplicate

File: Mathlib/NumberTheory/LegendreSymbol/MulCharacter.lean (hunk 35 above)
Comment (mattrobball) [reply Mathlib/NumberTheory/LegendreSymbol/MulCharacter.lean:135]: It looks like `MulChar.instFunLike` above suffices

File: Mathlib/NumberTheory/ModularForms/Basic.lean (hunk 36 above)
Comment (mattrobball) [reply Mathlib/NumberTheory/ModularForms/Basic.lean:93]: Yes

File: Mathlib/NumberTheory/ModularForms/SlashInvariantForms.lean (hunk 37 above)
[the remark this answers is not in the document]
Comment (mattrobball) [reply Mathlib/NumberTheory/ModularForms/SlashInvariantForms.lean:53]: Yes

File: Mathlib/Algebra/Algebra/Equiv.lean [hunk 111]
```diff
@@ -130,7 +108,17 @@ instance : EquivLike (A₁ ≃ₐ[R] A₂) A₁ A₂ where
     obtain ⟨⟨g,_⟩,_⟩ := g
     congr
 
--- Porting note: the default simps projection was `e.toEquiv.toFun`, it should be `DFunLike.coe`
+/-- Helper instance since the coercion is not always found. -/
+instance : FunLike (A₁ ≃ₐ[R] A₂) A₁ A₂ where
```
[the remark this answers is not in the document]
Comment (mattrobball) [reply Mathlib/Algebra/Algebra/Equiv.lean:112]: Duplicate

File: Mathlib/Order/Category/HeytAlg.lean (hunk 109 above)
[the remark this answers is not in the document]
Comment (mattrobball) [reply Mathlib/Order/Category/HeytAlg.lean:65]: Yes, it is. The only instance in scope there is `EquivLike.toFunLike` so not sure what the porter expected.

File: Mathlib/Order/Closure.lean (hunk 39 above)
Comment (mattrobball) [reply Mathlib/Order/Closure.lean:74]: Yes

File: Mathlib/Order/Heyting/Hom.lean (hunk 40 above)
Comment (mattrobball) [reply Mathlib/Order/Heyting/Hom.lean:262]: Yes

File: Mathlib/Order/Heyting/Hom.lean (hunk 41 above)
[the remark this answers is not in the document]
Comment (mattrobball) [reply Mathlib/Order/Heyting/Hom.lean:391]: Yes

File: Mathlib/Order/Heyting/Hom.lean [hunk 112]
```diff
@@ -499,20 +510,16 @@ namespace BiheytingHom
 
 variable [BiheytingAlgebra α] [BiheytingAlgebra β] [BiheytingAlgebra γ] [BiheytingAlgebra δ]
 
-instance : BiheytingHomClass (BiheytingHom α β) α β where
+instance : FunLike (BiheytingHom α β) α β where
```
[the remark this answers is not in the document]
Comment (mattrobball) [reply Mathlib/Order/Heyting/Hom.lean:513]: Yes

File: Mathlib/Order/Hom/Basic.lean [hunk 113]
```diff
@@ -215,15 +215,12 @@ namespace OrderHom
 
 variable [Preorder α] [Preorder β] [Preorder γ] [Preorder δ]
 
-instance : OrderHomClass (α →o β) α β where
+instance : FunLike (α →o β) α β where
```
[the remark this answers is not in the document]
Comment (mattrobball) [reply Mathlib/Order/Hom/Basic.lean:218]: Yes

File: Mathlib/Order/Hom/Bounded.lean (hunk 42 above)
Comment (mattrobball) [reply Mathlib/Order/Hom/Bounded.lean:210]: Yes

File: Mathlib/Order/Hom/Bounded.lean (hunk 43 above)
Comment (mattrobball) [reply Mathlib/Order/Hom/Bounded.lean:403]: Yes

File: Mathlib/Order/Hom/Bounded.lean (hunk 101 above)
[the remark this answers is not in the document]
Comment (mattrobball) [reply Mathlib/Order/Hom/Bounded.lean:606]: Yes

File: Mathlib/Order/Hom/CompleteLattice.lean [hunk 114]
```diff
@@ -249,17 +261,12 @@ section SupSet
 
 variable [SupSet β] [SupSet γ] [SupSet δ]
 
-instance : sSupHomClass (sSupHom α β) α β
-    where
+instance : FunLike (sSupHom α β) α β where
```
[the remark this answers is not in the document]
Comment (mattrobball) [reply Mathlib/Order/Hom/CompleteLattice.lean:264]: Yes

File: Mathlib/Order/Hom/CompleteLattice.lean (hunk 44 above)
Comment (mattrobball) [reply Mathlib/Order/Hom/CompleteLattice.lean:405]: Yes

File: Mathlib/Order/Hom/CompleteLattice.lean (hunk 102 above)
[the remark this answers is not in the document]
Comment (mattrobball) [reply Mathlib/Order/Hom/CompleteLattice.lean:542]: Yes

File: Mathlib/Order/Hom/CompleteLattice.lean [hunk 115]
```diff
@@ -659,15 +658,15 @@ end FrameHom
...
 /-! ### Complete lattice homomorphisms -/
 
-
 namespace CompleteLatticeHom
 
 variable [CompleteLattice α] [CompleteLattice β] [CompleteLattice γ] [CompleteLattice δ]
 
-instance : CompleteLatticeHomClass (CompleteLatticeHom α β) α β
-    where
+instance : FunLike (CompleteLatticeHom α β) α β where
```
[the remark this answers is not in the document]
Comment (mattrobball) [reply Mathlib/Order/Hom/CompleteLattice.lean:665]: Yes

File: Mathlib/Order/Hom/Lattice.lean (hunk 103 above)
[the remark this answers is not in the document]
Comment (mattrobball) [reply Mathlib/Order/Hom/Lattice.lean:366]: Yes

File: Mathlib/Order/Hom/Lattice.lean (hunk 45 above)
Comment (mattrobball) [reply Mathlib/Order/Hom/Lattice.lean:550]: Yes

File: Mathlib/Order/Hom/Lattice.lean (hunk 104 above)
[the remark this answers is not in the document]
Comment (mattrobball) [reply Mathlib/Order/Hom/Lattice.lean:739]: Yes

File: Mathlib/Order/Hom/Lattice.lean [hunk 116]
```diff
@@ -878,21 +890,17 @@ def toTopHom (f : InfTopHom α β) : TopHom α β :=
   { f with }
 #align inf_top_hom.to_top_hom InfTopHom.toTopHom
 
-instance : InfTopHomClass (InfTopHom α β) α β
-    where
+instance : FunLike (InfTopHom α β) α β where
```
[the remark this answers is not in the document]
Comment (mattrobball) [reply Mathlib/Order/Hom/Lattice.lean:893]: Yes

[the remark this answers is not in the document]
Comment (mattrobball) [reply Mathlib/Order/Hom/Lattice.lean:893]: Duplicate

File: Mathlib/Order/Hom/Lattice.lean (hunk 105 above)
[the remark this answers is not in the document]
Comment (mattrobball) [reply Mathlib/Order/Hom/Lattice.lean:1041]: Yes

File: Mathlib/Order/Hom/Lattice.lean (hunk 46 above)
[the remark this answers is not in the document]
Comment (mattrobball) [reply Mathlib/Order/Hom/Lattice.lean:1225]: Yes

File: Mathlib/Order/InitialSeg.lean (hunk 47 above)
Comment (mattrobball) [reply Mathlib/Order/InitialSeg.lean:69]: Duplicate

[the remark this answers is not in the document]
Comment (mattrobball) [reply Mathlib/Order/InitialSeg.lean:69]: Yes

File: Mathlib/Order/OmegaCompletePartialOrder.lean (hunk 48 above)
Comment (mattrobball) [reply Mathlib/Order/OmegaCompletePartialOrder.lean:626]: Yes

File: Mathlib/Order/RelIso/Basic.lean (hunk 106 above)
[the remark this answers is not in the document]
Comment (mattrobball) [reply Mathlib/Order/RelIso/Basic.lean:106]: Yes

File: Mathlib/Order/RelIso/Basic.lean (hunk 49 above)
Comment (mattrobball) [reply Mathlib/Order/RelIso/Basic.lean:237]: Yes

File: Mathlib/Order/RelIso/Basic.lean [hunk 117]
```diff
@@ -635,10 +640,13 @@ instance : CoeOut (r ≃r s) (r ↪r s) :=
 -- instance : CoeFun (r ≃r s) fun _ => α → β :=
 --   ⟨fun f => f⟩
 
--- TODO: define and instantiate a `RelIsoClass`
-instance : RelHomClass (r ≃r s) r s where
+-- TODO: define and instantiate a `RelIsoClass` when `EquivLike` is defined
+instance : FunLike (r ≃r s) α β where
```
[the remark this answers is not in the document]
Comment (mattrobball) [reply Mathlib/Order/RelIso/Basic.lean:644]: Yes

File: Mathlib/RingTheory/ClassGroup.lean [hunk 118]
```diff
@@ -152,7 +152,7 @@ theorem ClassGroup.mk_eq_mk_of_coe_ideal {I J : (FractionalIdeal R⁰ <| Fractio
 theorem ClassGroup.mk_eq_one_of_coe_ideal {I : (FractionalIdeal R⁰ <| FractionRing R)ˣ}
     {I' : Ideal R} (hI : (I : FractionalIdeal R⁰ <| FractionRing R) = I') :
     ClassGroup.mk I = 1 ↔ ∃ x : R, x ≠ 0 ∧ I' = Ideal.span {x} := by
-  rw [← map_one (ClassGroup.mk (R := R) (K := FractionRing R)),
+  rw [← _root_.map_one (ClassGroup.mk (R := R) (K := FractionRing R)),
```
[the remark this answers is not in the document]
Comment (mattrobball) [reply Mathlib/RingTheory/ClassGroup.lean:155]: We have `_root_.map_one` and `FractionalIdeal.map_one` in scope in `master` also but Lean doesn’t seem to get confused

File: Mathlib/RingTheory/Derivation/Basic.lean (hunk 50 above)
Comment (mattrobball) [reply Mathlib/RingTheory/Derivation/Basic.lean:65]: Yes

File: Mathlib/RingTheory/LaurentSeries.lean (hunk 51 above)
Comment (mattrobball) [reply Mathlib/RingTheory/LaurentSeries.lean:187]: `simp` can prove this

File: Mathlib/RingTheory/Valuation/Basic.lean (hunk 107 above)
[the remark this answers is not in the document]
Comment (mattrobball) [reply Mathlib/RingTheory/Valuation/Basic.lean:121]: Yes

File: Mathlib/Topology/Algebra/ContinuousAffineMap.lean (hunk 53 above)
Comment (mattrobball) [reply Mathlib/Topology/Algebra/ContinuousAffineMap.lean:62]: Yes

File: Mathlib/Topology/Algebra/ContinuousMonoidHom.lean (hunk 54 above)
Comment (mattrobball) [reply Mathlib/Topology/Algebra/ContinuousMonoidHom.lean:103]: Yes

File: Mathlib/Topology/Algebra/ContinuousMonoidHom.lean (hunk 55 above)
Comment (mattrobball) [reply Mathlib/Topology/Algebra/ContinuousMonoidHom.lean:416]: This doesn’t have to be `noncomputable` but it cannot find the instance otherwise

File: Mathlib/Topology/Algebra/Module/Alternating/Basic.lean [hunk 119]
```diff
@@ -66,9 +66,11 @@ theorem range_toContinuousMultilinearMap :
       {f | ∀ (v : ι → M) (i j : ι), v i = v j → i ≠ j → f v = 0} :=
   Set.ext fun f => ⟨fun ⟨g, hg⟩ => hg ▸ g.2, fun h => ⟨⟨f, h⟩, rfl⟩⟩
 
-instance continuousMapClass : ContinuousMapClass (M [Λ^ι]→L[R] N) (ι → M) N where
+instance funLike : FunLike (M [Λ^ι]→L[R] N) (ι → M) N where
```
[the remark this answers is not in the document]
Comment (mattrobball) [reply Mathlib/Topology/Algebra/Module/Alternating/Basic.lean:69]: Yes

File: Mathlib/Topology/Algebra/Module/Basic.lean (hunk 56 above)
Comment (mattrobball) [reply Mathlib/Topology/Algebra/Module/Basic.lean:418]: Yes but spacing is funny

File: Mathlib/Topology/Algebra/Module/Multilinear/Basic.lean [hunk 120]
```diff
@@ -76,10 +76,13 @@ theorem toMultilinearMap_injective :
   | ⟨f, hf⟩, ⟨g, hg⟩, h => by subst h; rfl
 #align continuous_multilinear_map.to_multilinear_map_injective ContinuousMultilinearMap.toMultilinearMap_injective
 
-instance continuousMapClass : ContinuousMapClass (ContinuousMultilinearMap R M₁ M₂) (∀ i, M₁ i) M₂
+instance funLike : FunLike (ContinuousMultilinearMap R M₁ M₂) (∀ i, M₁ i) M₂
```
[the remark this answers is not in the document]
Comment (mattrobball) [reply Mathlib/Topology/Algebra/Module/Multilinear/Basic.lean:79]: Yes but the `where` can be moved up

File: Mathlib/Topology/Algebra/Module/WeakDual.lean (hunk 57 above)
[the remark this answers is not in the document]
Comment (mattrobball) [reply Mathlib/Topology/Algebra/Module/WeakDual.lean:232]: Yes

File: Mathlib/Topology/Algebra/Module/WeakDual.lean (hunk 58 above)
Comment (mattrobball) [reply Mathlib/Topology/Algebra/Module/WeakDual.lean:182]: Duplicate

[the remark this answers is not in the document]
Comment (mattrobball) [reply Mathlib/Topology/Algebra/Module/WeakDual.lean:182]: Previously `map_neg` has unification trouble with `B(-x)` but oddly tracing `isDefEq` shows no failures.

[the remark this answers is not in the document]
Comment (mattrobball) [reply Mathlib/Topology/Algebra/Module/WeakDual.lean:182]: It now fires but is hard to figure out exactly why without more information.

File: Mathlib/Topology/Bornology/Hom.lean (hunk 59 above)
Comment (mattrobball) [reply Mathlib/Topology/Bornology/Hom.lean:81]: Yese

File: Mathlib/Topology/Compactness/SigmaCompact.lean (hunk 60 above)
Comment (mattrobball) [reply Mathlib/Topology/Compactness/SigmaCompact.lean:340]: Yes

File: Mathlib/Topology/Connected/PathConnected.lean (hunk 61 above)
Comment (mattrobball) [reply Mathlib/Topology/Connected/PathConnected.lean:81]: Yes

File: Mathlib/Topology/ContinuousFunction/Basic.lean (hunk 62 above)
[the remark this answers is not in the document]
Comment (mattrobball) [reply Mathlib/Topology/ContinuousFunction/Basic.lean:84]: Yes

File: Mathlib/Topology/ContinuousFunction/Bounded.lean (hunk 63 above)
[the remark this answers is not in the document]
Comment (mattrobball) [reply Mathlib/Topology/ContinuousFunction/Bounded.lean:73]: Duplicate

Comment (mattrobball) [reply Mathlib/Topology/ContinuousFunction/Bounded.lean:73]: Yes

File: Mathlib/Topology/ContinuousFunction/ZeroAtInfty.lean (hunk 65 above)
Comment (mattrobball) [reply Mathlib/Topology/ContinuousFunction/ZeroAtInfty.lean:78]: Yes

File: Mathlib/Topology/Hom/Open.lean (hunk 66 above)
Comment (mattrobball) [reply Mathlib/Topology/Hom/Open.lean:66]: Yes but should we name this instance?

File: Mathlib/Topology/Homotopy/Basic.lean (hunk 67 above)
Comment (mattrobball) [reply Mathlib/Topology/Homotopy/Basic.lean:105]: Yes but should be name this instance?

File: Mathlib/Topology/MetricSpace/Dilation.lean (hunk 69 above)
Comment (mattrobball) [reply Mathlib/Topology/MetricSpace/Dilation.lean:90]: Yes

File: Mathlib/Topology/MetricSpace/Isometry.lean (hunk 108 above)
[the remark this answers is not in the document]
Comment (mattrobball) [reply Mathlib/Topology/MetricSpace/Isometry.lean:322]: No but if we keep it we shouldn’t expose it to the auto-namer

File: Mathlib/Topology/Order/Hom/Basic.lean (hunk 70 above)
Comment (mattrobball) [reply Mathlib/Topology/Order/Hom/Basic.lean:101]: Yes but it should be names

File: Mathlib/Topology/Order/Hom/Esakia.lean [hunk 121]
```diff
@@ -100,27 +99,33 @@ instance [TopologicalSpace α] [Preorder α] [TopologicalSpace β] [Preorder β]
...
+
 /-! ### Pseudo-epimorphisms -/
 
 
 namespace PseudoEpimorphism
 
 variable [Preorder α] [Preorder β] [Preorder γ] [Preorder δ]
 
-instance : PseudoEpimorphismClass (PseudoEpimorphism α β) α β where
+instance : FunLike (PseudoEpimorphism α β) α β where
```
[the remark this answers is not in the document]
Comment (mattrobball) [reply Mathlib/Topology/Order/Hom/Esakia.lean:118]: Yes but it shouldn’t be auto-named

File: Mathlib/Topology/Order/Hom/Esakia.lean (hunk 72 above)
[the remark this answers is not in the document]
Comment (mattrobball) [reply Mathlib/Topology/Order/Hom/Esakia.lean:242]: Yes but it should have a name

File: Mathlib/Topology/Spectral/Hom.lean (hunk 74 above)
Comment (mattrobball) [reply Mathlib/Topology/Spectral/Hom.lean:112]: Yes but it shouldn’t be auto-named

File: Mathlib/Algebra/Lie/Basic.lean [hunk 122]
```diff
@@ -564,6 +564,10 @@ instance : EquivLike (L₁ ≃ₗ⁅R⁆ L₂) L₁ L₂ :=
     coe_injective' := fun f g h₁ h₂ =>
       by cases f; cases g; simp at h₁ h₂; simp [*] }
 
+instance : FunLike (L₁ ≃ₗ⁅R⁆ L₂) L₁ L₂ where
```
[the remark this answers is not in the document]
Comment (mattrobball) [reply Mathlib/Algebra/Lie/Basic.lean:567]: No

File: Mathlib/Algebra/Ring/Equiv.lean (hunk 78 above)
[the remark this answers is not in the document]
Comment (mattrobball) [reply Mathlib/Algebra/Ring/Equiv.lean:149]: No

File: Mathlib/MeasureTheory/MeasurableSpace/Basic.lean (hunk 34 above)
Comment (mattrobball) [reply Mathlib/MeasureTheory/MeasurableSpace/Basic.lean:1373]: No

File: Mathlib/FieldTheory/Subfield.lean (hunk 14 above)
Comment (mattrobball) [reply Mathlib/FieldTheory/Subfield.lean:481]: It is

**Review by mattrobball — APPROVED** [review]
Looks ready to go!

File: Mathlib/Order/Hom/Basic.lean (hunk 99 above)
[the remark this answers is not in the document]
Comment (kbuzzard) [reply Mathlib/Order/Hom/Basic.lean:111]: Does this matter?

File: Mathlib/Logic/Equiv/Defs.lean (hunk 93 above)
[the remark this answers is not in the document]
Comment (kbuzzard) [reply Mathlib/Logic/Equiv/Defs.lean:107]: No. I cannot "suggest" removing it though, because line 105 was not touched by this PR. Locally I have removed lines 105 to 110 and mathlib compiles fine.

**Review by kbuzzard — APPROVED** [review]
This diff looks great and of course the speedcenter profile is :heart: . I've added some comments all of which are hopefully trivial and marked the PR "awaiting author" @mattrobball @Vierkantor . Once all the remaining comments are resolved I'm happy to maintainer merge this.

File: Mathlib/Algebra/Module/LinearMap/Pointwise.lean [hunk 123]
```diff
@@ -20,8 +20,8 @@ variable [AddCommMonoid M] [AddCommMonoid M₁] [AddCommMonoid M₂] [AddCommMon
 variable [Module R M] [Module R M₁] [Module R M₂] [Module S N]
 variable {F : Type*} (h : F)
 
-@[simp]
-theorem image_smul_setₛₗ [SemilinearMapClass F σ M N] (c : R) (s : Set M) :
+-- @[simp] Not longer applies to itself #8386
```
Comment (sgouezel) [inline Mathlib/Algebra/Module/LinearMap/Pointwise.lean:23]:
```suggestion
-- @[simp] No longer applies to itself #8386
```
I'm not sure I understand this comment. Can you clarify? If you mean that sigma can't be found by whatever so that the simp lemma doesn't fire, it's maybe worth registering as a simp lemma the special case where sigma=id (`image_smul_set` below)?

File: Mathlib/Algebra/Group/Equiv/Basic.lean [hunk 124]
```diff
@@ -75,8 +75,7 @@ structure AddEquiv (A B : Type*) [Add A] [Add B] extends A ≃ B, AddHom A B
 
 /-- `AddEquivClass F A B` states that `F` is a type of addition-preserving morphisms.
 You should extend this class when you extend `AddEquiv`. -/
-class AddEquivClass (F : Type*) (A B : outParam (Type*)) [Add A] [Add B]
-    extends EquivLike F A B where
+class AddEquivClass (F A B : Type*) [Add A] [Add B] [EquivLike F A B] : Prop where
```
Comment (sgouezel) [inline Mathlib/Algebra/Group/Equiv/Basic.lean:78]: I am confused at to whether one should use `outParam`s or not: here you have removed outParam, but in many other classes you have kept them. Can you explain if there is a rule of thumb to be followed?

File: Mathlib/Algebra/Star/StarAlgHom.lean [hunk 125]
```diff
@@ -726,58 +739,41 @@ namespace StarAlgEquivClass
 
 -- Porting note: Made following instance non-dangerous through [...] -> [...] replacement
 -- See note [lower instance priority]
-instance (priority := 50) {F R A B : Type*} [Add A] [Mul A] [SMul R A] [Star A]
-    [Add B] [Mul B] [SMul R B] [Star B] [hF : StarAlgEquivClass F R A B] :
+instance (priority := 50) {F R A B : Type*} {_ : Add A} {_ : Mul A} [SMul R A] {_ : Star A}
+    {_ : Add B} {_ : Mul B} [SMul R B] {_ : Star B}
+    [EquivLike F A B]  [NonUnitalAlgEquivClass F R A B]
```
Comment (sgouezel) [inline Mathlib/Algebra/Star/StarAlgHom.lean:744]:
```suggestion
    [EquivLike F A B] [NonUnitalAlgEquivClass F R A B]
```

File: Mathlib/Data/FunLike/Basic.lean [hunk 126]
```diff
@@ -57,15 +59,15 @@ Continuing the example above:
 ```
 /-- `MyHomClass F A B` states that `F` is a type of `MyClass.op`-preserving morphisms.
 You should extend this class when you extend `MyHom`. -/
-class MyHomClass (F : Type*) (A B : outParam <| Type*) [MyClass A] [MyClass B]
-  extends DFunLike F A (λ _, B) :=
+class MyHomClass (F: Type*) (A B : outParam Type*) [MyClass A] [MyClass B]
```
Comment (sgouezel) [inline Mathlib/Data/FunLike/Basic.lean:62]: This would be a great place to explain when one should use outParams, and when not. Also, you could explain the reason of the unbundled design here, with a reference to the PR.

Also,
```suggestion
class MyHomClass (F : Type*) (A B : outParam Type*) [MyClass A] [MyClass B]
```

File: Mathlib/MeasureTheory/MeasurableSpace/Basic.lean [hunk 127]
```diff
@@ -1369,6 +1369,11 @@ instance instEquivLike : EquivLike (α ≃ᵐ β) α β where
   right_inv e := e.toEquiv.right_inv
   coe_injective' _ _ he _ := toEquiv_injective <| DFunLike.ext' he
 
+/-- Helper instance for when the `EquivLike` instance is too hard to find. -/
+-- instance instFunLike : FunLike (α ≃ᵐ β) α β where
+--   coe e := e.toEquiv
+--   coe_injective' := DFunLike.coe_injective
+
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/MeasurableSpace/Basic.lean:1376]:
```suggestion
```

**Review by sgouezel — COMMENTED** [review]
Thanks a lot for this! I have a few minor nitpicks, but I suggest we get this one in as soon as you are happy with it. We can fix issues if/when they surface, or improve later on what can be improved.
bors d+

File: Mathlib/Algebra/Module/Equiv.lean [hunk 128]
```diff
@@ -171,11 +170,17 @@ theorem toLinearMap_inj {e₁ e₂ : M ≃ₛₗ[σ] M₂} : (↑e₁ : M →ₛ
...
+instance : EquivLike (M ≃ₛₗ[σ] M₂) M M₂ where
   inv := LinearEquiv.invFun
   coe_injective' _ _ h _ := toLinearMap_injective (DFunLike.coe_injective h)
   left_inv := LinearEquiv.left_inv
   right_inv := LinearEquiv.right_inv
+
+instance : FunLike (M ≃ₛₗ[σ] M₂) M M₂ where
+  coe := DFunLike.coe
+  coe_injective' := DFunLike.coe_injective
+
```
[the remark this answers is not in the document]
Comment (ericrbg) [reply Mathlib/Algebra/Module/Equiv.lean:182]: maybe it provides a speed-up though?

**Comment by sgouezel** [comment]
Could you also fix the PR description, where it mentions `NDFunLike`?

File: Mathlib/Algebra/Module/Equiv.lean (hunk 128 above)
[the remark this answers is not in the document]
Comment (kbuzzard) [reply Mathlib/Algebra/Module/Equiv.lean:182]: If you want to benchmark and check (i.e. by making a new branch off this one), feel free to go ahead. My guess is that the change will be negligable, and that this shouldn't block merging of this PR.

[the remark this answers is not in the document]
Comment (ericrbg) [reply Mathlib/Algebra/Module/Equiv.lean:182]: full-agree that we should get this in ASAP and this shouldn't be a blocker; personally, though, I'd prefer putting a comment + benchmarking later as opposed to removing.

File: Mathlib/Algebra/Group/Hom/Defs.lean [hunk 129]
```diff
@@ -352,30 +361,39 @@ infixr:25 " →* " => MonoidHom
...
+@[to_additive]
+instance MonoidHom.monoidHomClass : MonoidHomClass (M →* N) M N where
   map_mul := MonoidHom.map_mul'
   map_one f := f.toOneHom.map_one'
 #align monoid_hom.monoid_hom_class MonoidHom.monoidHomClass
 #align add_monoid_hom.add_monoid_hom_class AddMonoidHom.addMonoidHomClass
 
 -- Porting note: we need to add an extra `to_additive`.
 -- This is waiting on https://github.com/leanprover-community/mathlib4/issues/660
-attribute [to_additive existing] MonoidHomClass.toOneHomClass
```
[the remark this answers is not in the document]
Comment (Vierkantor) [reply Mathlib/Algebra/Group/Hom/Defs.lean:375]: All of the following lines give an error "translation already exists":
```lean
attribute [to_additive existing] MonoidHom.toMulHom
attribute [to_additive existing] MonoidHom.toOneHom
attribute [to_additive existing] MonoidHomClass.toOneHomClass
attribute [to_additive existing] MonoidHomClass.toMulHomClass
```

So I'll just remove this entire porting note.

File: Mathlib/Algebra/Category/MonCat/Basic.lean [hunk 130]
```diff
@@ -87,7 +87,11 @@ instance {X Y : MonCat} : CoeFun (X ⟶ Y) fun _ => X → Y where
 
 @[to_additive]
 instance Hom_FunLike (X Y : MonCat) : FunLike (X ⟶ Y) X Y :=
-  show FunLike (X →* Y) X Y by infer_instance
+  inferInstanceAs <| FunLike (X →* Y) X Y
+
+@[to_additive]
+instance monoidHomClass (X Y : MonCat) : MonoidHomClass (X ⟶ Y) X Y :=
```
[the remark this answers is not in the document]
Comment (Vierkantor) [reply Mathlib/Algebra/Category/MonCat/Basic.lean:93]: I'll follow the convention we agreed on in #9785 and rename everything `instFunLike`/`instMonoidHomClass`.

File: Mathlib/Algebra/Module/LinearMap/Pointwise.lean (hunk 123 above)
Comment (Vierkantor) [reply Mathlib/Algebra/Module/LinearMap/Pointwise.lean:23]: I've added a more extensive comment and added `image_smul_set` as a `@[simp]` lemma.

File: Mathlib/Algebra/Category/ModuleCat/Basic.lean [hunk 131]
```diff
@@ -98,6 +98,10 @@ instance moduleCategory : Category.{v, max (v+1) u} (ModuleCat.{v} R) where
   assoc f g h := LinearMap.comp_assoc (f := f) (g := g) (h := h)
 #align Module.Module_category ModuleCat.moduleCategory
 
+instance {M N : ModuleCat.{v} R} : FunLike (M ⟶ N) M N :=
+  LinearMap.ndFunLike
+
+-- porting note: was not necessary in mathlib
```
[the remark this answers is not in the document]
Comment (Vierkantor) [reply Mathlib/Algebra/Category/ModuleCat/Basic.lean:104]: Looks like this comment was removed in 0c4b73141cdd0688a5ac9a28da1889a935d05a07 and got re-added in a merge. I'll re-remove it:
```suggestion
```

File: Mathlib/Algebra/Group/Equiv/Basic.lean (hunk 124 above)
Comment (Vierkantor) [reply Mathlib/Algebra/Group/Equiv/Basic.lean:78]: The rule of thumb is to keep `outParam` even if it's not strictly necessary: this seems to help with unification problems, for example in the category theory library. However I didn't know this at the start of the PR so I removed `outParam` at first. I might have missed other places where I removed it and didn't add it back.

File: Mathlib/Algebra/Module/Basic.lean [hunk 132]
```diff
@@ -463,15 +464,18 @@ theorem map_inv_int_cast_smul [AddCommGroup M] [AddCommGroup M₂] {F : Type*}
...
+    [Module S M₂] (c : ℚ) (x : M) :
+    f ((c : R) • x) = (c : S) • f x := by
   rw [Rat.cast_def, Rat.cast_def, div_eq_mul_inv, div_eq_mul_inv, mul_smul, mul_smul,
     map_int_cast_smul f R S, map_inv_nat_cast_smul f R S]
 #align map_rat_cast_smul map_rat_cast_smul
 
-theorem map_rat_smul [AddCommGroup M] [AddCommGroup M₂] [Module ℚ M] [Module ℚ M₂] {F : Type*}
-    [AddMonoidHomClass F M M₂] (f : F) (c : ℚ) (x : M) : f (c • x) = c • f x :=
+theorem map_rat_smul [AddCommGroup M] [AddCommGroup M₂]
+    [_instM : Module ℚ M] [_instM₂ : Module ℚ M₂]
```
[the remark this answers is not in the document]
Comment (Vierkantor) [reply Mathlib/Algebra/Module/Basic.lean:476]: These are needed by code below, to supply explicit values to the implicit parameters.

**Comment by Vierkantor** [comment]
I am happy with the state of the PR. Let's see if everything still builds and merge. :crossed_fingers:

**Comment by mattrobball** [comment]
You can just fill in `Multiplicative.ofAdd` to help the elaborator and avoid the error

**Comment by mattrobball** [comment]
Haha. I merged this one without benching. It used to be 
```lean
      simp (config := { singlePass := true }) only [hausdorffDist_comm]
```

From #9928. Maybe restoring with a comment to fix?

**Comment by Vierkantor** [comment]
> Haha. I merged this one without benching. It used to be
> 
> ```lean
>       simp (config := { singlePass := true }) only [hausdorffDist_comm]
> ```
> 
> From #9928. Maybe restoring with a comment to fix?

Indeed, undoing that change seems to fix everything.

**Comment by mattrobball** [comment]
It will build now and lint

**Comment by Vierkantor** [comment]
Also with the merges?

**Comment by mattrobball** [comment]
That I don't know yet!

**Comment by Vierkantor** [comment]
I should start cooking dinner soon. Could you take over for me for the next 2-3 hours? Or should I hope for the best and kick this PR on the queue?

**Comment by mattrobball** [comment]
I can kick it. If there are any serious issues, I will wait.

**Comment by mattrobball** [comment]
`Mathlib`, `Archive`, and `Counterexamples` all build and it lints. I am going to bump the priority to over `9000`.

**Comment by mattrobball** [comment]
bors merge p=9001

**Comment by mattrobball** [comment]
bors merge p=9001
